2184-09-17 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Onc recs ([**Location (un) 3805**]): agree with current management
   - PM lytes showed Na 126 (from 126 in AM) and serum osm low yesterday,
   urine osm 464 -> thought this might be SIADH, will fluid restrict until
   AM and check AM labs
   - Tube feeds were started
   - S&S c/s: Suggest keeping patient NPO with G-tube feeds at this time
   as his severe dysphagia is likely exacerbated by his reduced medical
   status at this time and is at high-risk for aspiration, especially with
   reduced/weak cough. Suggest further imaging of the neck/pharynx [**2-2**]
   concern of increased soft tissue.
   - BNP was [**Numeric Identifier 10088**]
   - sputum was contaminated, reordered it
   - HCP was confirmed to be the wife, [**Name (NI) 2185**]
   - had copius secretions, was refusing to get suctioned, was taking off
   the face mask, desatting into high 80s. -> used restraints and Ativan
   and suctioned -> pt breathing more comfortably
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-16**] 08:09 PM
   Cefipime - [**2184-9-16**] 10:00 PM
   Ciprofloxacin - [**2184-9-16**] 11:38 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-9-17**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 118 (91 - 118) bpm
   BP: 151/73(91) {126/55(72) - 161/76(93)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,283 mL
                                                                    239 mL
   PO:
             TF:
                                                                     80 mL
                                                                     74 mL
   IVF:
                                                                  1,993 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    255 mL
   Urine:
                                                                  1,120 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,163 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96% on 50% FM
   ABG: 7.50/39/80/31
   Physical Examination
   Gen: uses accessory muscles to breathe, drowsy, arousable to voice
   HEENT: copious thick secretions visible in mouth and oropharynx
   CV: RRR, no murmurs
   Lungs: diffusely rhonchorous
   Abd: soft, nondistended, nontender
   Ext: no edema
   Labs / Radiology
   347 K/uL
   9.2 g/dL
   131 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   88 mEq/L
   126 mEq/L
   26.9 %
   21.6 K/uL
        [image002.jpg]
                             [**2184-9-16**]  03:32 PM
                             [**2184-9-17**]  04:25 AM
                             [**2184-9-17**]  05:41 AM
   WBC
   21.6
   Hct
   26.9
   Plt
   347
   Cr
   0.6
   0.6
   TCO2
   31
   Glucose
   131
   131
   Other labs:
   PT / PTT / INR:18.2/40.6/1.6,
   Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Lactate 1.1
   Serum Osm (yesterday) 243
   Urine Osm 468
   Urine Cr 62
   Urine Na 57
   BNP [**Numeric Identifier 10088**]
   UA neg for infection
   Micro:
   Sputum cx: contaminated
   Blood cx NTD
   Imaging:
   CT Neck: final read pending
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Hypoxia:  Gas on floor with 50% FiO2 7.51/30/65 when sating 92%, but
   now sating at 95-100% on 50%.  Most likely from right middle lobe PNA
   seen on CXR.  Has thick, fluorescent green mucous in oropharynx which
   is foul smelling - likely pseudomonas.  Other possible etiologies
   include PE, CHF exacerbation though those are less likely.
   - will double cover for pseudomonas with Cefepime and [**Last Name (LF) **], [**First Name3 (LF) **] also
   treat with vancomycin for broad coverage, ID already approved
   - high flow face mask to keep sats 93-95% give likely has COPD given
   long tobacco history
   - patient is currently refusing suctioning and has a poor cough reflex
   - concern for inability to clear secretions, wife to come in to help
   convince patient to be suctioned which is essential to stave off
   further aspiration and potential need for intubation
   - consider CTA to eval for PE though not clinically stable enough
   currently
   - check BNP to r/o CHF exacerbation
   # Respiratory Alkalosis: Co2 on gas 30, normal bicarb.  Likely from
   hyperventilation and blowing off too much CO2 in an attempt to properly
   oxygenate in the setting of respiratory distress and hypoxia.
   - O2 as above
   - trend gas
   # Hyponatremia:  119 on admission and on repeat, but rose to 126 this
   morning after fluids and then lasix, so unclear which had an effect.
   Likely hypovolemic hyponatremia as patient appears dry on exam with
   thick secretions and has no e/o fluid overload on exam.  FeNa is 0.46%
   indicating hypovolemia. Urine and seruum osmolality low.
   - IVF maintenance of NS 100cc/hr for 1 L
   - pm lytes and trend
   # Stage III Squamous Cell Throat CA:  Follwed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].  Is
   s/p XRT  and cetuximab, last dose [**2184-6-21**].
   - e-mailed Dr. [**First Name (STitle) 3805**] to make aware of admission/transfer
   - has G-tube in place for feeding, will c/s nutrition for TF
   recommendations and keep pt NPO
   - management per Dr. [**First Name (STitle) 3805**]
   # HTN:  On atenolol and HCTZ at home, both were held on admission.  Pt
   has been mildly HTN in the 150's with hr 90-100.
   - will restart BB, but give metoprolol 50mg [**Hospital1 **] for shorter acting med
   - continue to hold diuretic
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   # FEN: IVF NS 100cc/hr, replete electrolytes, NPO
   # Prophylaxis: Subutaneous heparin
   # Access: peripherals
   # Code:  Full - OMED team discussed with patient.  Given unclear
   prognosis, will discuss with Dr. [**First Name (STitle) 3805**] and continue to address.
   # Communication: Patient, wife [**Name (NI) 1332**] [**Name (NI) 10068**].  Need to determine HCP -
   in [**Name (NI) 2040**], niece is HCP.
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-17**] 06:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-09-17 09:59:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2184-9-16**] 10:01 AM
   -Patient with continued and significant secretion volume in the setting
   of pneumonia and with patient resistant to treatment interventions has
   been an ongoing challenge to maintain optimal treatment approaches with
   patient only intermittently compliant with treatment short of
   intubation.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-16**] 08:09 PM
   Ciprofloxacin - [**2184-9-16**] 11:38 PM
   Cefipime - [**2184-9-17**] 08:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-17**] 06:00 AM
   Lorazepam (Ativan) - [**2184-9-17**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2184-9-17**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 110 (91 - 118) bpm
   BP: 119/54(70) {119/54(70) - 161/76(93)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,283 mL
                                                                    407 mL
   PO:
             TF:
                                                                     80 mL
                                                                    120 mL
   IVF:
                                                                  1,993 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    375 mL
   Urine:
                                                                  1,120 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,163 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.50/39/80.[**Numeric Identifier 176**]/27/6
   PaO2 / FiO2: 84
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   347 K/uL
   131 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   12 mg/dL
   88 mEq/L
   126 mEq/L
   26.9 %
   21.6 K/uL
        [image002.jpg]
                             [**2184-9-16**]  03:32 PM
                             [**2184-9-17**]  04:25 AM
                             [**2184-9-17**]  05:41 AM
   WBC
   21.6
   Hct
   26.9
   Plt
   347
   Cr
   0.6
   0.6
   TCO2
   31
   Glucose
   131
   131
   Other labs: PT / PTT / INR:18.2/40.6/1.6, Ca++:8.5 mg/dL, Mg++:1.5
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR-none this am
   Assessment and Plan
   68 yo male admitted with hypoxemic respiratory compromise secondary to
   pneumonia.  He has right middle lobe opacity and has had continued high
   volume of secretions which has required close monitoring and intensive
   nursing and respiratory care therapy to maintain airway patency.
   1)Pneumonia-
   -Cipro/Vanco/Cefepime
   -Continue with chest PT and suctioning and positioning to aid in
   secretion clearance
   -Conern is significant for possible intubation
   -FIO2= 0.5
   -Will have to consider diuresis and evaluation for PE if patient not
   able to be moved to continued trend to better.
   -Will move to chest X-ray today to look for possible addition of
   congestive edema
   2)Cancer-SCCA neck in the setting of smoking history
   -With treatment has 50% 5-year survival
   -He does have limitations in regards to swallow and has chronic
   aspiration going forward.
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 .H/O HYPOXEMIA
 .H/O CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-17**] 06:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will have to discuss in detail with patient
   and wife current plan of care to work to minimize episodes of
   combative/resistant patient in adversarial role with care givers.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-09-18 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-9-17**] 11:45 PM
 EKG - At [**2184-9-18**] 01:20 AM
 INVASIVE VENTILATION - START [**2184-9-18**] 02:00 AM
 PAN CULTURE - At [**2184-9-18**] 03:45 AM
 FEVER - 101.2
F - [**2184-9-18**] 03:00 AM
   - [**Last Name (un) 10107**] sent at 4:30PM: 7.5, 39. 82 (improved PaO2)
   - noted to be tiring at 7:30PM.  ABG at 7:40PM:  7.46, 44, 116.
   - [**Last Name (un) **] at 1:20AM: 7.49/36/40
   - patient refused intubation, but decided by primary team to intubate
   should the need arise as patient has questionable competence
   - intubated at ~2AM, placed on AC 500X14, PEEP 10, FiO2: initially
   100%.  ABG checked 1 hour later, drop in PaO2, therefore FiO2 increased
   back to 100%.
   - noted to be tachycardic and hypertensive for much of the night.
   Hydralazine was given.  Patient found to be hypotensive with blood
   pressures in the high 70s at 4AM.  Given 1L NS and pan cultured.  SBP
   increased to >100.
   - spoke to PCP: [**Name10 (NameIs) **] is depressed, has not been eating
   - restarted TF
   - urine lytes (SIADH?): osmolol: 511, Urea: 711, Creat: 80, Na: 18.
   Fena suggests prerenal etiology.  Given 250cc NS bolus.
   - social work consult was ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2184-9-17**] 07:45 PM
   Vancomycin - [**2184-9-17**] 08:15 PM
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-17**] 02:19 PM
   Lorazepam (Ativan) - [**2184-9-17**] 05:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-18**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 132 (105 - 149) bpm
   BP: 109/55(52) {92/54(52) - 187/110(126)} mmHg
   RR: 30 (15 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,294 mL
                                                                  2,930 mL
   PO:
             TF:
                                                                    190 mL
   IVF:
                                                                  1,804 mL
                                                                  2,810 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                    240 mL
   Urine:
                                                                  1,362 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    932 mL
                                                                  2,690 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.34/50/58/25/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 58
                                     pH
                                    7.46
                                    pCO2
                                     35
                                     pO2
                                     206
                                    HCO3
                                     26
                                   BaseXS
                                      2
   Type:Art
   Lactate:1.6
   Physical Examination
   Gen: intubated, sedated
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffusely rhonchorous
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   347 K/uL
   9.2 g/dL
   153 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   12 mg/dL
   93 mEq/L
   127 mEq/L
   28
   21.6 K/uL
        [image002.jpg]
                             [**2184-9-16**]  03:32 PM
                             [**2184-9-17**]  04:25 AM
                             [**2184-9-17**]  05:41 AM
                             [**2184-9-17**]  01:16 PM
                             [**2184-9-17**]  04:16 PM
                             [**2184-9-17**]  07:41 PM
                             [**2184-9-18**]  01:20 AM
                             [**2184-9-18**]  03:12 AM
                             [**2184-9-18**]  03:16 AM
   WBC
   21.6
   Hct
   26.9
   28
   Plt
   347
   Cr
   0.6
   0.6
   0.5
   TropT
   0.01
   TCO2
   31
   31
   31
   32
   28
   28
   Glucose
   131
   131
   153
   Other labs:
   CK / CKMB / Troponin-T:/5/0.01,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: pending
   Imaging:
   CXR: diffuse bilateral infiltrate, worse than yesterday
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  s/p intubation. Most likely from PNA seen on
   CXR.  Sputum culture grew out GNR, speciation pending.  Other possible
   etiologies include PE and CHF exacerbation which are less likely at
   this time.
   - on ventilator AC setting, FiO2 was decreased from 100% to 70%, check
   ABG and re-adjust setting accordingly.
   - as this is likely CAP and aspiration pneumonia, would d/c cefepime
   and cipro as he doesn
t have any risk factors or past infection with
   pseudomonas, and put him on vanc, levo and zosyn
   - f/u sputum culture GNR speciation and sensitivities.
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations, however, would check LFT and C. diff . GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - continue vanc, zosyn and levo
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - check LFT and C. diff
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate
   .
   # Hyponatremia:  FeNa 0.11. Urine Na 18. Mostly likely hypovolemic
   hyponatremia.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Follwed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].  Is
   s/p XRT and cetuximab, last dose [**2184-6-21**].
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following)
   - S&S following
   - TF were held during suctioning [**2-2**] risk of aspiration, but can be
   restarted today
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - continue  metoprolol 50mg [**Hospital1 7**] for now with holding parameter
   - continue to hold HCTZ
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-17**] 06:00 AM 20 mL/hour
   Glycemic Control:  ISS if needed
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: ICU care

2184-09-18 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2184-9-17**] 11:45 PM
 EKG - At [**2184-9-18**] 01:20 AM
 INVASIVE VENTILATION - START [**2184-9-18**] 02:00 AM
 PAN CULTURE - At [**2184-9-18**] 03:45 AM
 FEVER - 101.2
F - [**2184-9-18**] 03:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2184-9-17**] 07:45 PM
   Vancomycin - [**2184-9-17**] 08:15 PM
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-17**] 02:19 PM
   Lorazepam (Ativan) - [**2184-9-17**] 05:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-18**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 132 (105 - 149) bpm
   BP: 109/55(52) {92/54(52) - 187/110(126)} mmHg
   RR: 30 (15 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,294 mL
                                                                  3,033 mL
   PO:
             TF:
                                                                    190 mL
                                                                     80 mL
   IVF:
                                                                  1,804 mL
                                                                  2,833 mL
   Blood products:
   Total out:
                                                                  1,362 mL
                                                                    240 mL
   Urine:
                                                                  1,362 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    932 mL
                                                                  2,793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: 7.46/35/206/25/2
   Ve: 15.3 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   347 K/uL
   153 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   12 mg/dL
   93 mEq/L
   127 mEq/L
   28
   21.6 K/uL
        [image002.jpg]
                             [**2184-9-16**]  03:32 PM
                             [**2184-9-17**]  04:25 AM
                             [**2184-9-17**]  05:41 AM
                             [**2184-9-17**]  01:16 PM
                             [**2184-9-17**]  04:16 PM
                             [**2184-9-17**]  07:41 PM
                             [**2184-9-18**]  01:20 AM
                             [**2184-9-18**]  03:12 AM
                             [**2184-9-18**]  03:16 AM
                             [**2184-9-18**]  07:43 AM
   WBC
   21.6
   Hct
   26.9
   28
   Plt
   347
   Cr
   0.6
   0.6
   0.5
   TropT
   0.01
   TCO2
   31
   31
   31
   32
   28
   28
   26
   Glucose
   131
   131
   153
   Other labs: PT / PTT / INR:18.2/40.6/1.6, CK / CKMB /
   Troponin-T:/5/0.01, Lactic Acid:1.6 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-18**] 04:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2184-09-19 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Wanted to change to Zosyn for better GPC and anaerobic coverage
   (given ? CAP versus ASP versus ? pseudomonas) but ID would not approve,
   ID team feels flagyl + cefepime is equivalent coverage
   - Added levoflox for atypical coverage and to continue double coverage
   pseudomonas, so currently on vanc+levo+cefepime+flagyl
   - A-line placed
   - Ventilator: FiO2 decreased to 50%. ABG looked good.
   - Had a fever to 100.5 at 4pm, didn't culture as he already had blood
   culture sent in the am.
   - BP low, given LR and NS boluses
   - Hct 21 this am, trending down. ordered T+S and 2u pRBC
   - ordered Fe studies, folate, B12 and hemolysis labs as well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Cefipime - [**2184-9-18**] 08:00 PM
   Vancomycin - [**2184-9-18**] 09:30 PM
   Metronidazole - [**2184-9-19**] 04:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-18**] 12:49 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-18**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 104 (88 - 120) bpm
   BP: 129/57(80) {96/47(61) - 148/65(94)} mmHg
   RR: 26 (24 - 41) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  7,184 mL
                                                                    910 mL
   PO:
             TF:
                                                                    925 mL
                                                                    429 mL
   IVF:
                                                                  6,139 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                    465 mL
   Urine:
                                                                    797 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,387 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/36/123/24/2
   Ve: 13 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: intubated, sedated
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffusely rhonchorous
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   304 K/uL
   7.1 g/dL
   158 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   131 mEq/L
   21.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2184-9-17**]  07:41 PM
                             [**2184-9-18**]  01:20 AM
                             [**2184-9-18**]  03:12 AM
                             [**2184-9-18**]  03:16 AM
                             [**2184-9-18**]  07:43 AM
                             [**2184-9-18**]  04:32 PM
                             [**2184-9-18**]  04:39 PM
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
   WBC
   16.1
   14.2
   Hct
   23.1
   21.0
   Plt
   303
   304
   Cr
   0.5
   0.8
   TropT
   0.01
   TCO2
   32
   28
   28
   26
   31
   25
   26
   Glucose
   153
   158
   Other labs:
   PT / PTT / INR:18.4/44.6/1.7,
   Lactic Acid:1.4 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Vit-B12:Pnd
   Folate:Pnd
   Other Blood Chemistry:
   Iron: Pnd
   Hapto: Pnd
   Ferritn: Pnd
   TRF: Pnd
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: pending
   Imaging: none
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  s/p intubation. Most likely from PNA seen on
   CXR.  Sputum culture grew out GNR, speciation pending.  Other possible
   etiologies include PE and CHF exacerbation which are less likely at
   this time.
   - on ventilator AC setting, FiO2 was decreased from 100% to 70%, check
   ABG and re-adjust setting accordingly.
   - as this is likely CAP and aspiration pneumonia, would d/c cefepime
   and cipro as he doesn
t have any risk factors or past infection with
   pseudomonas, and put him on vanc, levo and zosyn
   - f/u sputum culture GNR speciation and sensitivities.
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations, however, would check LFT and C. diff . GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - continue vanc, zosyn and levo
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - check LFT and C. diff
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate
   .
   # Hyponatremia:  FeNa 0.11. Urine Na 18. Mostly likely hypovolemic
   hyponatremia.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Follwed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].  Is
   s/p XRT and cetuximab, last dose [**2184-6-21**].
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following)
   - S&S following
   - TF were held during suctioning [**2-2**] risk of aspiration, but can be
   restarted today
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - continue  metoprolol 50mg [**Hospital1 7**] for now with holding parameter
   - continue to hold HCTZ
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-18**] 09:01 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Arterial Line - [**2184-9-18**] 03:07 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU

2184-09-19 07:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2184-9-18**] 03:07 PM
 EKG - At [**2184-9-18**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Cefipime - [**2184-9-18**] 08:00 PM
   Vancomycin - [**2184-9-18**] 09:30 PM
   Metronidazole - [**2184-9-19**] 04:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-18**] 12:49 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-18**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 104 (88 - 120) bpm
   BP: 129/57(80) {96/47(61) - 148/65(94)} mmHg
   RR: 26 (24 - 41) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  7,184 mL
                                                                    938 mL
   PO:
             TF:
                                                                    925 mL
                                                                    450 mL
   IVF:
                                                                  6,139 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                    797 mL
                                                                    465 mL
   Urine:
                                                                    797 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,387 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/36/123/24/2
   Ve: 13 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   304 K/uL
   158 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   131 mEq/L
   21.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2184-9-17**]  07:41 PM
                             [**2184-9-18**]  01:20 AM
                             [**2184-9-18**]  03:12 AM
                             [**2184-9-18**]  03:16 AM
                             [**2184-9-18**]  07:43 AM
                             [**2184-9-18**]  04:32 PM
                             [**2184-9-18**]  04:39 PM
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
   WBC
   16.1
   14.2
   Hct
   23.1
   21.0
   Plt
   303
   304
   Cr
   0.5
   0.8
   TropT
   0.01
   TCO2
   32
   28
   28
   26
   31
   25
   26
   Glucose
   153
   158
   Other labs: PT / PTT / INR:18.4/44.6/1.7, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:21/37, Alk Phos / T Bili:100/1.5, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:234 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE / pna  - wean FiO2, cont abx, follow culture
   Throat cancer
 not an active issue
   Hyponatremia - IVF
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-18**] 09:01 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-17**] 05:00 AM
   Arterial Line - [**2184-9-18**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2184-09-20 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-19**]:
   - pm hct after 2u pRBC: 21 to 27
   - Fe studies: Vit-B12:>[**2174**] Folate:8.8
   Iron: 9
   calTIBC: 85
   Hapto: 212
   Ferritn: Pnd
   TRF: 65
   - tried PS [**12-9**], ABG was 7.44/37/120
   - guaic neg
   - C diff sent
   - CXR today: There is some improvement in aeration, particularly in the
   mid lung fields bilaterally suggesting improved fluid status.
   Persistent patchy densities at the bases bilaterally may be due to
   pneumonia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Cefipime - [**2184-9-19**] 08:30 PM
   Vancomycin - [**2184-9-19**] 09:20 PM
   Metronidazole - [**2184-9-20**] 03:45 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-19**] 10:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.5
   HR: 95 (91 - 110) bpm
   BP: 127/55(81) {99/50(67) - 153/69(97)} mmHg
   RR: 25 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,788 mL
                                                                    660 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    417 mL
   IVF:
                                                                  1,598 mL
                                                                    243 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,360 mL
                                                                    430 mL
   Urine:
                                                                  1,360 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,428 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 549 (407 - 553) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 98%
   ABG: 7.39/49/174/25/4
   Ve: 14 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Gen: intubated, sedated
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: sound clear anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   281 K/uL
   9.3 g/dL
   150 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   27.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2184-9-18**]  07:43 AM
                             [**2184-9-18**]  04:32 PM
                             [**2184-9-18**]  04:39 PM
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
                             [**2184-9-19**]  01:25 PM
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
   WBC
   16.1
   14.2
   14.1
   Hct
   23.1
   21.0
   27.1
   27.3
   Plt
   [**Telephone/Fax (3) 10159**]
   Cr
   0.8
   0.7
   TCO2
   26
   31
   25
   26
   26
   31
   Glucose
   158
   150
   Other labs:
   PT / PTT / INR:17.3/40.4/1.6,
   ALT / AST:31/40, Alk Phos / T Bili:96/1.1,
   Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:176 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   HEMATOLOGIC
                                   calTIBC
                                   VitB12
                                   Folate
                                    Hapto
                                   Ferritn
                                     TRF
   [1][**2184-9-19**] 04:13AM
                                     85*
                                    >[**2174**]
                                     8.8
                                    212*
                                     PND
                                     65*
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: pending
   C Diff negative
   Imaging: CXR today
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  [**2-2**] to PNA. Continues to be intubated.  Sputum
   culture grew out GNR, speciation pending.  Other possible etiologies
   include PE and CHF exacerbation which are less likely at this time.
   - on ventilator AC setting, FiO2 was decreased to 40% this AM, satting
   well.
   - continue currently abx coverage with vanc (d5), cefepime (d5), levo
   (d3), and flagyl (d3)
   - f/u sputum culture GNR speciation and sensitivities
   - f/u on today
s CXR
   - wean to PS [**10-7**]
   - continue chest PT
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations.  LFTs are wnl and C Diff is negative x1. GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - continue vanc, cefepime, flagyl and levo
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate
   .
   # Anemia: Fe/TIBC ratio= 10.6%, showing iron deficiency. B12, folate
   levels are wnl.
   - Hct has increased to 27 after 2 units of pRBCs
   - hold iron supplements in setting of ICU
   .
   # Hyponatremia:  FeNa 0.11. Urine Na 18. Na currently 134, much
   improved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following)
   - S&S following
   - continue TF
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - continue  metoprolol 50mg [**Hospital1 7**] for now with holding parameter
   - continue to hold HCTZ
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-19**] 09:52 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);

2184-09-20 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient intubated with persistent hypoxemia
   -Patient with good tolerance of wean to PSV mode of support
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-9-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Metronidazole - [**2184-9-20**] 03:45 AM
   Vancomycin - [**2184-9-20**] 08:00 AM
   Cefipime - [**2184-9-20**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-20**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-20**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98.1
   HR: 94 (91 - 110) bpm
   BP: 152/69(101) {110/51(71) - 154/70(102)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,804 mL
                                                                  1,515 mL
   PO:
             TF:
                                                                  1,456 mL
                                                                    790 mL
   IVF:
                                                                  1,598 mL
                                                                    595 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,360 mL
                                                                    670 mL
   Urine:
                                                                  1,360 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,444 mL
                                                                    845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (413 - 580) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.39/49/174/25/4
   Ve: 15.8 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   281 K/uL
   150 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   27.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2184-9-18**]  07:43 AM
                             [**2184-9-18**]  04:32 PM
                             [**2184-9-18**]  04:39 PM
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
                             [**2184-9-19**]  01:25 PM
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
   WBC
   16.1
   14.2
   14.1
   Hct
   23.1
   21.0
   27.1
   27.3
   Plt
   [**Telephone/Fax (3) 10159**]
   Cr
   0.8
   0.7
   TCO2
   26
   31
   25
   26
   26
   31
   Glucose
   158
   150
   Other labs: PT / PTT / INR:17.3/40.4/1.6, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:31/40, Alk Phos / T Bili:96/1.1, Lactic
   Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:176 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR-Persistence of multi-lobar infiltrates consistent with
   pneumonia
   Assessment and Plan
   68 yo with history of SCCA--neck--now with right middle lobe pneumonia
   but unable to effectively clear what were infact quite large volume
   secretions.  He was subsequently intubated wtih hypoxemic respiratory
   compromise and has been able to move to improved levels of PSV support.
   1)Respiratory Failure--
   -Vanco/Levo/Cefepime/Flagyl
   -Continue wtih PSV Wean
   -Suction as needed
   -Wife update in room in full detail
   -Will have extubation limited by mental status and sputum volume.
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-20**] 09:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-09-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cont cefepime and vanc (day 5), flagyl (day 3), levo (day 3)
   - c. diff f/u today
   - vent: PS [**12-7**], can try dropping to [**10-7**] at 5:30PM -> ABG at 6:30:
   7.48, 36, 147 (from 7.39, 49, 174)
   - shut off feeds at midnight
   - tachypnic with increased secretions overnight.  RT will calculate
   RSBI in AM and try to wean vents.  Possible SBT/extubation in AM?
   - check with Dr. [**First Name (STitle) 3805**] (onc): no further recs
   - pressures stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Levofloxacin - [**2184-9-20**] 12:52 PM
   Vancomycin - [**2184-9-20**] 07:48 PM
   Cefipime - [**2184-9-20**] 10:28 PM
   Metronidazole - [**2184-9-21**] 05:46 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2184-9-20**] 08:29 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 97 (82 - 106) bpm
   BP: 144/59(89) {117/54(76) - 166/74(106)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  3,189 mL
                                                                    269 mL
   PO:
             TF:
                                                                  1,507 mL
                                                                     21 mL
   IVF:
                                                                  1,472 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    530 mL
   Urine:
                                                                  1,250 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,939 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (425 - 580) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.47/42/116/29/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   310 K/uL
   10.0 g/dL
   106 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   134 mEq/L
   27.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
                             [**2184-9-19**]  01:25 PM
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
   WBC
   14.2
   14.1
   13.1
   Hct
   21.0
   27.1
   27.3
   27.7
   Plt
   [**Telephone/Fax (3) 10181**]
   Cr
   0.8
   0.7
   0.5
   TCO2
   25
   26
   26
   31
   28
   31
   Glucose
   158
   150
   106
   Other labs:
   PT / PTT / INR:17.3/39.8/1.6,
   CK / CKMB / Troponin-T:/5/0.01,
   ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase / Lipase:15/16,
   Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: neg
   C Diff negative x2
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  [**2-2**] to PNA. Continues to be intubated.  Sputum
   culture grew out GNR, speciation pending.  Other possible etiologies
   include PE and CHF exacerbation which are less likely at this time.
   - on PS 5/5, RSBI  31, doing well
   - per RT, secretions improved
   - plan for extubation today with airway cart at bedside in case needed
   reintubation
   - continue currently abx coverage with vanc (d6), cefepime (d6), levo
   (d4), and flagyl (d4)
   - f/u sputum culture GNR speciation and sensitivities
   - f/u on today
s CXR
   - continue chest PT, frequent suctioning
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations.  LFTs are wnl and C Diff is negative x1. GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - continue vanc, cefepime, flagyl and levo
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate
   .
   # Anemia: Fe/TIBC ratio= 10.6%, showing iron deficiency. B12, folate
   levels are wnl.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following) re: mass
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - continue  metoprolol 50mg [**Hospital1 7**] for now with holding parameter
   - pt
s SBP in 130-160s range currently, but continue to hold home HCTZ
   in this acute setting
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition: TF held at MN
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Protonix
   VAP:  VAP bundle
   Comments:
   Communication:  wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU

2184-09-21 10:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   _Patient with secretions decreased
   -Patient with RSBI favorable
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-9-18**] 12:30 PM
   Levofloxacin - [**2184-9-20**] 12:52 PM
   Cefipime - [**2184-9-20**] 10:28 PM
   Metronidazole - [**2184-9-21**] 05:46 AM
   Vancomycin - [**2184-9-21**] 08:29 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2184-9-20**] 08:29 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-21**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-21**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 125 (82 - 125) bpm
   BP: 193/89(130) {117/54(76) - 193/89(130)} mmHg
   RR: 35 (14 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  3,189 mL
                                                                    505 mL
   PO:
             TF:
                                                                  1,507 mL
                                                                     21 mL
   IVF:
                                                                  1,472 mL
                                                                    484 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                  1,175 mL
   Urine:
                                                                  1,250 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,939 mL
                                                                   -670 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (408 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.47/42/116/29/7
   Ve: 15.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   310 K/uL
   106 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   134 mEq/L
   27.7 %
   13.1 K/uL
        [image002.jpg]
                             [**2184-9-18**]  08:23 PM
                             [**2184-9-19**]  04:13 AM
                             [**2184-9-19**]  04:21 AM
                             [**2184-9-19**]  01:25 PM
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
   WBC
   14.2
   14.1
   13.1
   Hct
   21.0
   27.1
   27.3
   27.7
   Plt
   [**Telephone/Fax (3) 10181**]
   Cr
   0.8
   0.7
   0.5
   TCO2
   25
   26
   26
   31
   28
   31
   Glucose
   158
   150
   106
   Other labs: PT / PTT / INR:17.3/39.8/1.6, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   68 yo male with history of SCCA and now with hypoxemic respiratory
   failure secondary to right sided pneumonia with inability to maintain
   secretion clearance.  He has had good improvement in oxygenation and
   capacity to maintain ventilation and has moved to SBT this morning
   given favorable RSBI
   1)Respiratory Failure-
   -Gent/Cefepime/Flagyl
   -Atrovent
   -Will move to extubation this morning
   -Continue with close suctioning and antibiotics
   ICU Care
   Nutrition: NPO in anticipation of extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes

2184-09-22 07:28:00 Physician Resident Progress Note
TITLE:
   TITLE:
   Chief Complaint:
   24 Hour Events:
   - attempted extubation today, but when the cuff was deflated there was
   no cuff [**Last Name (LF) 3117**], [**First Name3 (LF) **] extubation was aborted. unclear if it is due to airway
   edema or tumor. when he was intubated it was a difficult intubation so
   possibly caused some trauma and edema
   - TF restarted
   - will try steroid (dexamethasone 0.5-2mg/kg/day divided q6h) tomorrow
   for 1 day to reduce edema (already ordered), and give it another try on
   Thursday
   - f/u sputum culture from [**9-18**]: GNR speciation and sensis, still
   pending
   - given lasix 10mg IV x1 at about 8pm as the CXR in the morning looked
   a little wet, and to maximally optimize his chance of extubation
   - ABG at 4AM 7.54/39/104/34, so changed from AC to PS, repeat ABG
   showed...
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2184-9-21**] 09:30 AM
   Levofloxacin - [**2184-9-21**] 12:00 PM
   Vancomycin - [**2184-9-21**] 07:43 PM
   Metronidazole - [**2184-9-22**] 05:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-22**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-22**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 103 (96 - 125) bpm
   BP: 145/59(88) {132/58(84) - 193/91(131)} mmHg
   RR: 27 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,954 mL
                                                                    174 mL
   PO:
             TF:
                                                                    621 mL
                                                                     14 mL
   IVF:
                                                                  1,333 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    560 mL
   Urine:
                                                                  2,500 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 505) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.56/36/106/32/10
   Ve: 10.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   356 K/uL
   8.3 g/dL
   124 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.2 mEq/L
   13 mg/dL
   97 mEq/L
   137 mEq/L
   24.7 %
   12.5 K/uL
        [image002.jpg]
                             [**2184-9-19**]  01:25 PM
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
   WBC
   14.1
   13.1
   12.5
   Hct
   27.1
   27.3
   27.7
   24.7
   Plt
   [**Telephone/Fax (3) 10201**]
   Cr
   0.7
   0.5
   0.5
   TCO2
   26
   31
   28
   31
   34
   33
   Glucose
   150
   106
   124
   Other labs:
   PT / PTT / INR:16.9/38.8/1.5,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Micro:
   Blood cultures from [**9-16**] neg and [**9-18**] NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: neg
   C Diff negative x2
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  [**2-2**] to PNA. Continues to be intubated.  Sputum
   culture grew out GNR, speciation pending.  Other possible etiologies
   include PE and CHF exacerbation which are less likely at this time.
   - on PS 5/5, RSBI  31, doing well
   - per RT, secretions improved
   - plan for extubation today with airway cart at bedside in case needed
   reintubation
   - continue currently abx coverage with vanc (d6), cefepime (d6), levo
   (d4), and flagyl (d4)
   - f/u sputum culture GNR speciation and sensitivities
   - f/u on today
s CXR
   - continue chest PT, frequent suctioning
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations.  LFTs are wnl and C Diff is negative x1. GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - continue vanc, cefepime, flagyl and levo
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate
   .
   # Anemia: Fe/TIBC ratio= 10.6%, showing iron deficiency. B12, folate
   levels are wnl.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following) re: mass
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - continue  metoprolol 50mg [**Hospital1 7**] for now with holding parameter
   - pt
s SBP in 130-160s range currently, but continue to hold home HCTZ
   in this acute setting
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition: TF held at MN
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Protonix
   VAP:  VAP bundle
   Comments:
   Communication:  wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU

2184-09-22 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   24 Hour Events:
   -Patient with mild diruesis attempted and with no cuff leak, patient
   given brief course of steroid Rx to look to diminish possible
   contribution from upper airway anatomy.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2184-9-21**] 12:00 PM
   Metronidazole - [**2184-9-22**] 05:42 AM
   Vancomycin - [**2184-9-22**] 08:00 AM
   Cefipime - [**2184-9-22**] 09:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-22**] 07:52 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-22**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2184-9-22**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 93 (93 - 118) bpm
   BP: 159/66(101) {132/58(84) - 190/91(131)} mmHg
   RR: 31 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,954 mL
                                                                    543 mL
   PO:
             TF:
                                                                    621 mL
                                                                     14 mL
   IVF:
                                                                  1,333 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    780 mL
   Urine:
                                                                  2,500 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                   -237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 369 (0 - 505) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.53/40/94.[**Numeric Identifier 126**]/32/9
   Ve: 13.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   356 K/uL
   124 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.2 mEq/L
   13 mg/dL
   97 mEq/L
   137 mEq/L
   24.7 %
   12.5 K/uL
        [image002.jpg]
                             [**2184-9-19**]  05:54 PM
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
   WBC
   14.1
   13.1
   12.5
   Hct
   27.1
   27.3
   27.7
   24.7
   Plt
   [**Telephone/Fax (3) 10201**]
   Cr
   0.7
   0.5
   0.5
   TCO2
   31
   28
   31
   34
   33
   35
   Glucose
   150
   106
   124
   Other labs: PT / PTT / INR:16.9/38.8/1.5, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR-Patient with persistent and bilateral opacities consistent
   with some combination of effusion and consolidation with some clearing
   of the right middle lobe.
   Assessment and Plan
   68 yo male with SCCA--throat and respiratory failure with intubation
   for hypoxemic respiratory failure in the setting of right sided
   pneumonia with RML opacity dominating picture at presentation.
   1)Respiratory Failure-Patient with excellent mental status, good cough,
   audible cuff leak this morning but with persistent secretions with
   suction on hourly basis.  He does, however, have good compliance with
   treatment and has good cough in response to stimulus
   Pneumonia-Vanco/Levofloxacin/Cefepime/Flagyl to continue
   Pulmonary Secretions-Will continue to suction PRN and encourage cough
   and deep breath
   Pulmonary Edema
He has negative fluild balance yesterday and will
   continue negative fluid balance today
   Upper Airway Edema
Given improvement in cuff leak prior to steroid
   dosing we will not continue with steroid dosing
   So
Will trial extubation today, will have airway cart available for
   possible re-intubation.
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2184-09-22 19:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - attempted extubation yesterday, but when the cuff was deflated there
   was no cuff [**Last Name (LF) 3117**], [**First Name3 (LF) **] extubation was aborted. unclear if it is due to
   airway edema or tumor. when he was intubated it was a difficult
   intubation so possibly caused some trauma and edema
   - TF restarted
   - will try steroid (dexamethasone 0.5-2mg/kg/day divided q6h) tomorrow
   for 1 day to reduce edema (already ordered), and give it another try on
   Thursday
   - f/u sputum culture from [**9-18**]: GNR speciation and sensis, still
   pending
   - given lasix 10mg IV x1 at about 8pm as the CXR in the morning looked
   a little wet, and to maximally optimize his chance of extubation
   - ABG at 4AM 7.54/39/104/34, so changed from AC to PS, repeat ABG
   showed pH 7.56 pCO2 36 pO2 106 HCO3 33
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-22**] 05:42 AM
   Vancomycin - [**2184-9-22**] 08:00 AM
   Cefipime - [**2184-9-22**] 09:45 AM
   Levofloxacin - [**2184-9-22**] 12:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-22**] 07:52 AM
   Furosemide (Lasix) - [**2184-9-22**] 01:41 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-22**] 04:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-22**] 07:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 104 (87 - 113) bpm
   BP: 139/68(93) {132/58(84) - 177/144(147)} mmHg
   RR: 29 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,954 mL
                                                                    952 mL
   PO:
             TF:
                                                                    621 mL
                                                                    200 mL
   IVF:
                                                                  1,333 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                  1,450 mL
   Urine:
                                                                  2,500 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 431 (369 - 458) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.53/40/94.[**Numeric Identifier 126**]/32/9
   Ve: 8.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   356 K/uL
   8.3 g/dL
   124 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.2 mEq/L
   13 mg/dL
   97 mEq/L
   137 mEq/L
   23.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2184-9-20**]  04:30 AM
                             [**2184-9-20**]  04:36 AM
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
   WBC
   14.1
   13.1
   12.5
   Hct
   27.3
   27.7
   24.7
   23.6
   Plt
   [**Telephone/Fax (3) 10201**]
   Cr
   0.7
   0.5
   0.5
   TCO2
   31
   28
   31
   34
   33
   35
   Glucose
   150
   106
   124
   Other labs:
   PT / PTT / INR:16.9/38.8/1.5
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending
   Urine culture from [**9-17**] and [**9-18**]: neg
   C Diff negative x2
   CXR:
   Interval worsening of multifocal airspace opacification affecting the
   right
   lung to a greater degree than the left with relative sparing of the
   left upper
   lobe.
   Bilateral layering pleural effusions are probably unchanged
   allowing for positional differences between the studies.
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for
   weakness, PNA found on [**Hospital 10067**] transferred from oncology service for
   hypoxia.
   # Respiratory failure:  [**2-2**] to PNA. Continues to be intubated.  Sputum
   culture grew out GNR, speciation pending.  Other possible etiologies
   include PE and CHF exacerbation which are less likely at this time.
   - on PS 5/5, RSBI 69, doing well
   - per RT, secretions improved
   - plan for extubation today with airway cart at bedside and anesthesia
   present in case needed reintubation
   - continue currently abx coverage with cefepime (d7) and levo (d5)
   - d/c vanc and flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities
   - continue chest PT, frequent suctioning
   - continue 24 hrs of IV steroids that was started early thei AM to
   reduce edema for successful extubation
   - pt received one dose of Lasix yesterday evening, can continue given
   the CXR looks like pleural effusions persist
   .
   # Sepsis: pt meets the criteria for sepsis. The source of infection is
   most likely pulmonary given his pneumonia seen on CXR. Sputum culture
   grew out GNR, speciation pending.  GI source is less likely since pt
   had no diarrhea, abdominal pain or any other GI complaints prior to
   intubations.  LFTs are wnl and C Diff is negative x1. GU source is less
   likely given negative UA. Patient has no skin breakdown. No new murmur
   to warrant a TTE at this point. No sinusitis so wouldn
t get a CT sinus
   at this time.
   - treat the underlying infection by continuing cefepime and levoquin
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate (has been normal)
   .
   # Anemia: Fe/TIBC ratio= 10.6%, showing iron deficiency. B12, folate
   levels are wnl.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   - check PM Hct
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   - currently on metoprolol 50mg [**Hospital1 7**] for now with holding parameter but
   HTN uncontrolled
   - will start home PO meds again (atenelol and HCTZ)
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-21**] 11:38 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: remains in ICU

2184-09-23 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - was not extubated yesterday bc anesthesia felt there was no cuff
   leak, unclear if due to airway or tumor
   - completed 4 doses of dexamethasone 15mg IV 16h
   - changed to AC for the night to give him rest
   - this AM, on PS 5/5.  Plan to extubate again in AM (without
   anesthesia)
   - was given another dose of IV Lasix 10mg at 8PM with good urine output
   - [**2184-9-18**] SPUTUM GRAM STAIN: 1+ GRAM NEGATIVE ROD(S).
              RESPIRATORY CULTURE (Preliminary):
                    Commensal Respiratory Flora Absent.
                    STAPH AUREUS COAG +.    RARE GROWTH.
   - dc'd flagyl
   - continued on levoquin (d5), cefepime (d7) and vanc (d7)
   - restarted home PO HTN meds (atenelol and HCTZ) and dc'd metop
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-22**] 05:42 AM
   Levofloxacin - [**2184-9-22**] 12:20 PM
   Cefipime - [**2184-9-22**] 08:50 PM
   Vancomycin - [**2184-9-22**] 10:05 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-22**] 07:52 AM
   Furosemide (Lasix) - [**2184-9-22**] 01:41 PM
   Heparin Sodium (Prophylaxis) - [**2184-9-22**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-23**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 93 (86 - 113) bpm
   BP: 137/58(89) {127/53(82) - 160/144(147)} mmHg
   RR: 21 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,516 mL
                                                                     62 mL
   PO:
             TF:
                                                                    465 mL
   IVF:
                                                                    951 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    350 mL
   Urine:
                                                                  1,550 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (369 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.55/40/96.[**Numeric Identifier 181**]/30/12
   Ve: 11.3 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   366 K/uL
   7.3 g/dL
   166 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   21 mg/dL
   97 mEq/L
   137 mEq/L
   21.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
   WBC
   13.1
   12.5
   12.4
   Hct
   27.7
   24.7
   23.6
   21.9
   Plt
   [**Telephone/Fax (3) 10250**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   28
   31
   34
   33
   35
   36
   Glucose
   106
   124
   166
   Other labs: PT / PTT / INR:17.4/35.3/1.6, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending:
   [**2184-9-18**] SPUTUM GRAM STAIN: 1+ GRAM NEGATIVE ROD(S).
              RESPIRATORY CULTURE (Preliminary):
                    Commensal Respiratory Flora Absent.
                    STAPH AUREUS COAG +.    RARE GROWTH.
   Urine culture from [**9-17**] and [**9-18**]: neg
   C Diff negative x2
   CXR:
   Interval worsening of multifocal airspace opacification affecting the
   right
   lung to a greater degree than the left with relative sparing of the
   left upper
   lobe.
   Bilateral layering pleural effusions are probably unchanged
   allowing for positional differences between the studies.
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  [**2-2**] to PNA and secretions. Continues to be
   intubated.  Sputum culture grew out GNR, speciation pending.  CXR from
   yesterday appeared consistent with pulmonary edema, and patient was
   diuresed last night with good urinary output.
   - on PS 5/5
   - per RT, secretions improved; good cough present
   - plan for extubation today with airway cart at bedside and anesthesia
   present in case needed reintubation
   - continue currently abx coverage with vanco (d8), cefepime (d8), and
   levo (d6)
   - d/ced flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities
   - continue chest PT, frequent suctioning
   - continue 24 hrs of IV steroids that was started early thei AM to
   reduce edema for successful extubation
   - pt received one dose of Lasix yesterday evening, can continue given
   the CXR looks like pleural effusions persist
   .
   # Sepsis: no longer requiring pressors and stable blood pressures.  The
   source of infection is most likely pulmonary given his pneumonia seen
   on CXR. Sputum culture grew out GNR, speciation pending.  GI source is
   less likely since pt had no diarrhea, abdominal pain or any other GI
   complaints prior to intubations.  LFTs are wnl and C Diff is negative
   x1. GU source is less likely given negative UA. Patient has no skin
   breakdown. No new murmur to warrant a TTE at this point. No sinusitis
   so wouldn
t get a CT sinus at this time.
   - treat the underlying infection by continuing cefepime and levoquin
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   - follow lactate (has been normal)
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   -d
ced metoprolol 50mg [**Hospital1 7**] for now with holding parameter but HTN
   uncontrolled
   - was re-started yesterday on home PO meds again (atenelol and HCTZ)
   .
   # Anemia: Fe/TIBC ratio= 10.6%, showing iron deficiency. B12, folate
   levels are wnl.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   - check PM Hct
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-21**] 11:38 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: remains in ICU

2184-09-23 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cuff leak limited--24 hours steroids given through to this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-22**] 05:42 AM
   Levofloxacin - [**2184-9-22**] 12:20 PM
   Vancomycin - [**2184-9-23**] 07:43 AM
   Cefipime - [**2184-9-23**] 09:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-9-22**] 01:41 PM
   Pantoprazole (Protonix) - [**2184-9-23**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-23**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-23**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 77 (77 - 105) bpm
   BP: 134/56(86) {127/53(82) - 159/144(147)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,516 mL
                                                                    427 mL
   PO:
             TF:
                                                                    465 mL
   IVF:
                                                                    951 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    450 mL
   Urine:
                                                                  1,550 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (402 - 458) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.55/40/96.[**Numeric Identifier 181**]/30/12
   Ve: 11.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   366 K/uL
   166 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   21 mg/dL
   97 mEq/L
   137 mEq/L
   21.9 %
   12.4 K/uL
        [image002.jpg]
                             [**2184-9-20**]  07:43 PM
                             [**2184-9-21**]  04:03 AM
                             [**2184-9-21**]  06:30 AM
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
   WBC
   13.1
   12.5
   12.4
   Hct
   27.7
   24.7
   23.6
   21.9
   Plt
   [**Telephone/Fax (3) 10250**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   28
   31
   34
   33
   35
   36
   Glucose
   106
   124
   166
   Other labs: PT / PTT / INR:17.4/35.3/1.6, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Imaging: CXrR--Tubes in good position, infiltrates diminished mildly
   Assessment and Plan
   68 yo male with right middle lobe pneumonia and intubated with
   hypoxemic respiratory failure and with excessive secretions--no with
   improved frequency of secretion clearance but with concern about upper
   airway anatomy leaving tolerance of extubation in question.
   1)Respiratory Failure-Patient with improved secretions, has persistent
   excellent mental status, has 24 hours of steroid Rx, has cuff leak
   audible this morning.
   -Will notify anesthesia and proceed to extubation
   -Suction PRN
   -Continue with broad spectrum antibiotics for
   2)Pneumonia-
   -Follow culture results
   -Vanco/Levo/Cefepime/Flagyl
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: NPO this morning
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2184-09-24 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-9-23**] 11:05 AM
   - successfully extubated
   - O2 sats remained generally in the high 90s
   - intermittent secretions/suctioning
   - given lasix 10mg IV X 1, urine output > 200cc/h
   - no new onc recs
   - pm hct: 22.7 (21.9)
   - restarted tube feeds at midnight
   - two more days of levoquin starting in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-22**] 05:42 AM
   Vancomycin - [**2184-9-23**] 07:43 AM
   Cefipime - [**2184-9-23**] 09:04 AM
   Levofloxacin - [**2184-9-23**] 11:33 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-23**] 07:43 AM
   Furosemide (Lasix) - [**2184-9-23**] 11:33 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-23**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-24**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 83 (74 - 89) bpm
   BP: 162/58(96) {122/51(76) - 211/204(207)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                    638 mL
                                                                    190 mL
   PO:
                  TF:
                  190 mL
   IVF:
                                                                    578 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    935 mL
   Urine:
                                                                  2,010 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,372 mL
                                                                   -746 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (451 - 451) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 11.7 L/min
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   442 K/uL
   7.6 g/dL
   166 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   21 mg/dL
   97 mEq/L
   137 mEq/L
   23.0 %
   16.5 K/uL
        [image002.jpg]
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
   WBC
   12.5
   12.4
   16.5
   Hct
   24.7
   23.6
   21.9
   31.5
   22.7
   23.0
   Plt
   356
   366
   442
   Cr
   0.5
   0.5
   TCO2
   34
   33
   35
   36
   Glucose
   124
   166
   Other labs: PT / PTT / INR:17.4/35.3/1.6, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Micro:
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending:
   [**2184-9-18**] SPUTUM GRAM STAIN: 1+ GRAM NEGATIVE ROD(S).
              RESPIRATORY CULTURE (Preliminary):
                    Commensal Respiratory Flora Absent.
                    STAPH AUREUS COAG +.    RARE GROWTH.
   Urine culture from [**9-17**] and [**9-18**]: neg final read
   C Diff negative x2
   Imaging:
   CXR yesterday: interval worsening of multifocal airspace opacities
   affecting right lung more than left.
   CXR today: my read: improvement in haziness located in the bilateral
   bases.  ETT tube in place.
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  [**2-2**] to PNA and secretions but s/p successful
   extubation this AM.  Sputum culture grew out GNR, speciation pending.
   CXR from yesterday appeared consistent with pulmonary edema, and
   patient was diuresed last night with good urinary output.
   -extubated successfully.  Continue to monitor O2 sats and for signs of
   fatigue
   - continue currently abx coverage with vanco (d8), cefepime (d8), and
   levo (d6)
   - d/ced flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities
   - continue suctioning
   - pt received one dose of Lasix yesterday evening, can continue 10mg
   lasix IV times one in the AM, given the CXR looks like pleural
   effusions persist
   - consider MIE
   .
   # Sepsis: no longer requiring pressors and stable blood pressures.  The
   source of infection is most likely pulmonary given his pneumonia seen
   on CXR. Sputum culture grew out GNR, speciation pending.  GI source is
   less likely since pt had no diarrhea, abdominal pain or any other GI
   complaints prior to intubations.  LFTs are wnl and C Diff is negative
   x1. GU source is less likely given negative UA. Patient has no skin
   breakdown. No new murmur to warrant a TTE at this point. No sinusitis
   so wouldn
t get a CT sinus at this time.
   - treat the underlying infection by continuing cefepime and levoquin
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   -d
ced metoprolol 50mg [**Hospital1 7**] for now with holding parameter but HTN
   uncontrolled
   - was re-started yesterday on home PO meds again (atenelol and HCTZ)
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.
   - hct drop to 21 overnight, repeat crit 22.  Continue to monitor, will
   check in AM
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Restarted on tube feeds.  Fibersource HN (Full) - [**2184-9-21**] 11:38 PM
   60 mL/hour.
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: remains in ICU

2184-09-24 09:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneuomonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-9-23**] 11:05 AM
   -Patient extubated without event
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2184-9-22**] 05:42 AM
   Cefipime - [**2184-9-23**] 09:04 AM
   Levofloxacin - [**2184-9-23**] 11:33 AM
   Vancomycin - [**2184-9-24**] 07:47 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-9-23**] 11:33 AM
   Pantoprazole (Protonix) - [**2184-9-24**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-24**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2184-9-24**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 85 (74 - 89) bpm
   BP: 159/56(94) {122/51(76) - 211/204(207)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                    638 mL
                                                                    590 mL
   PO:
             TF:
             280 mL
   IVF:
                                                                    578 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,115 mL
   Urine:
                                                                  2,010 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,372 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   442 K/uL
   132 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.1 mEq/L
   22 mg/dL
   94 mEq/L
   134 mEq/L
   23.0 %
   16.5 K/uL
        [image002.jpg]
                             [**2184-9-22**]  04:01 AM
                             [**2184-9-22**]  04:16 AM
                             [**2184-9-22**]  05:52 AM
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
   WBC
   12.5
   12.4
   16.5
   Hct
   24.7
   23.6
   21.9
   31.5
   22.7
   23.0
   Plt
   356
   366
   442
   Cr
   0.5
   0.5
   0.5
   TCO2
   34
   33
   35
   36
   Glucose
   124
   166
   132
   Other labs: PT / PTT / INR:16.4/34.6/1.5, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR--no signficant change from yesterday--mild decrease in
   lung volumes with withdrawl of positive pressure
   Microbiology: No new results
   Assessment and Plan
   68 yo male with h/o SCCA--neck and with right middle lobe pneumonia and
   significant secretion production did require intubation but now has
   been able to be successfully extubated yesterday with ongoing care
   focused on secretion clearance but has been able to wean down on FIO2
   requirements.
   1)Pneumonia-
   -Levoflox/Cefepime/Vanco for 8 day course
   -Follow sputum results
   -Continue with frequent suctioning
   2)Respiratory Failure-This was secondary to pneumonia with possible
   overlay of  pulmonary edema
but was dominantly related to infection.
   -Suction
   -Wean O2
   -Trial MIE for secretion clearance
   -Will continue negative fluid balance x 1 more day
   Additional issues to be addressed as defined in the housestaff note of
   this date
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-24**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-21**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 33 minutes

2184-09-25 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - MIE ordered, pt tolerated well
   - urine lytes ordered to assess fluid status as we've been diuresing
   him. Osmolal:582. FeUrea 44 (not intravascularly dry)
   - cefepime and vanc d/c'd. levo continued for a total course of 8 days
   (day1: [**9-18**], last day [**9-25**] tomorrow)
   - given lasix 10mg IV x1
   - physical therapy ordered
   - A line was pulled
   - since pt still requires frequent suctioning and MIE treatments, kept
   him in the unit today, likely call out tomorrow
   - BP high in the evening, SBP up to 200, given hydralazine PO 25mg x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-24**] 07:47 AM
   Cefipime - [**2184-9-24**] 09:00 AM
   Levofloxacin - [**2184-9-24**] 12:41 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-24**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-25**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-25**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 85 (75 - 103) bpm
   BP: 169/62(101) {151/60(94) - 198/95(132)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,600 mL
                                                                    291 mL
   PO:
                  TF:
                                                                    890 mL
                                                                    291 mL
   IVF:
                                                                    610 mL
   Blood products:
   Total out:
                                                                  3,755 mL
                                                                    740 mL
   Urine:
                                                                  3,455 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,155 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.54/41/95.[**Numeric Identifier 218**]/32/10
   PaO2 / FiO2: 271
   Physical Examination
   Gen: intubated, awake, able to follow simple commands
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   532 K/uL
   8.2 g/dL
   150 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   19 mg/dL
   92 mEq/L
   133 mEq/L
   24.4 %
   17.6 K/uL
        [image002.jpg]
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
   WBC
   12.4
   16.5
   17.6
   Hct
   23.6
   21.9
   31.5
   22.7
   23.0
   23.7
   24.4
   Plt
   366
   442
   532
   Cr
   0.5
   0.5
   0.5
   TCO2
   35
   36
   36
   Glucose
   166
   132
   150
   Other labs:
   PT / PTT / INR:15.9/35.1/1.4,
   CK / CKMB / Troponin-T:/5/0.01,
   ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase / Lipase:15/16,
   Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Micro: nothing new
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending:
   [**2184-9-18**] SPUTUM GRAM STAIN: 1+ GRAM NEGATIVE ROD(S).
              RESPIRATORY CULTURE (Preliminary):
                    Commensal Respiratory Flora Absent.
                    STAPH AUREUS COAG +.    RARE GROWTH.
   Urine culture from [**9-17**] and [**9-18**]: neg final read
   C Diff negative x2
   Imaging:
   CXR today: my read: improvement in haziness located in the bilateral
   bases.  ETT tube in place.
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  [**2-2**] to PNA and secretions but s/p successful
   extubation this AM.  Sputum culture grew out GNR, speciation pending.
   CXR from yesterday appeared consistent with pulmonary edema, and
   patient was diuresed last night with good urinary output.
   - extubated successfully.  Continue to monitor O2 sats and for signs of
   fatigue.  Has poor cough ability.  MIE implemented this AM with
   expectoration of secretions.  Will continue to suction PRN.
   - d/c cefepime and vanco (total 8 day course) and continue levo for two
   more days (day 7 of 8 day course)
   - d/ced flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities
   - pt received one dose of Lasix yesterday evening, can continue 10mg
   lasix IV times one in the AM, given the CXR looks like pleural
   effusions persist -> obtain urine lytes today; creatinine stable
   .
   # Sepsis: no longer requiring pressors and stable blood pressures.  The
   source of infection is most likely pulmonary given his pneumonia seen
   on CXR. Sputum culture grew out GNR, speciation pending.
   - treat the underlying infection
 finished cefepime and vanco.
   Continue levoquin for 2 more days.
   - f/u on sputum culture speciation of GNR and sensitivities
   - follow up blood and urine cultures
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - maintain ScvO2 >70%
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  On atenolol and HCTZ at home, both  held on admission
   -d
ced metoprolol 50mg [**Hospital1 7**] for now with holding parameter but HTN
   uncontrolled
   - was re-started yesterday on home PO meds again (atenelol and HCTZ)
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.
   - hct stabilized to 23 overnight.  Continue to monitor, will check in
   AM
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Currently resolved.
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-24**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: call ou to the floor today

2184-09-25 14:29:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo male with [** 10315**] recovering from RML MSSA PNA/acute respiratory
   failure- extubated [**9-23**]
   24 Hour Events:
   completed cefipime/vanco
   Lasix 10 mg IV
   frequent suctioning every 1-2 hours
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-24**] 07:47 AM
   Cefipime - [**2184-9-24**] 09:00 AM
   Levofloxacin - [**2184-9-25**] 01:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-25**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-25**] 02:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 83 (77 - 103) bpm
   BP: 175/71(113) {153/60(93) - 198/87(132)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,600 mL
                                                                    723 mL
   PO:
             TF:
                                                                    890 mL
                                                                    418 mL
   IVF:
                                                                    610 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,755 mL
                                                                  1,580 mL
   Urine:
                                                                  3,455 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,155 mL
                                                                   -857 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.54/41/95.[**Numeric Identifier 218**]/32/10
   PaO2 / FiO2: 271
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic, Sounds congested
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.2 g/dL
   532 K/uL
   150 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   19 mg/dL
   92 mEq/L
   133 mEq/L
   24.4 %
   17.6 K/uL
        [image002.jpg]
                             [**2184-9-22**]  09:51 AM
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
   WBC
   12.4
   16.5
   17.6
   Hct
   23.6
   21.9
   31.5
   22.7
   23.0
   23.7
   24.4
   Plt
   366
   442
   532
   Cr
   0.5
   0.5
   0.5
   TCO2
   35
   36
   36
   Glucose
   166
   132
   150
   Other labs: PT / PTT / INR:15.9/35.1/1.4, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Acute resp failure:
   Improved, but continues to have significant secretions requiring
   frequent nursing care and mechanical insufflation-exsufllation
   *Last day of LVQ- dc today
   *On atrovent nebs, add scheduled albuterol
   *Nursing and resp care needs too high to manage on hospital floor
   *Continue MIE
   *PT and get pt OOB
   [**Name (NI) 10315**] of throat: per Onc team
   HTN: on home meds of atenolol and HCTZ, but still with high BP- add
   ace-I
   s/p CVA: on ASA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-9-18**] 03:07 PM
   20 Gauge - [**2184-9-25**] 10:48 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2184-09-26 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2184-9-25**] 03:10 PM
   - continued thick tan secretions, poor ability to clear
   - dc'd A line
   - dc'd Levoquin as finished course
   - added Lisinopril 5mg daily for better BP control
   - continued on face tent, suctioning for secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-24**] 07:47 AM
   Cefipime - [**2184-9-24**] 09:00 AM
   Levofloxacin - [**2184-9-25**] 01:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-25**] 04:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-26**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 92 (77 - 97) bpm
   BP: 152/71(92) {135/53(73) - 163/92(100)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,088 mL
                                                                    189 mL
   PO:
                  TF:
                                                                    653 mL
                                                                    189 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    900 mL
   Urine:
                                                                  2,380 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Gen: awake, alert and oriented
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   552 K/uL
   8.9 g/dL
   157 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   91 mEq/L
   130 mEq/L
   26.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
   WBC
   12.4
   16.5
   17.6
   21.0
   Hct
   23.6
   21.9
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   Plt
   366
   442
   532
   552
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   36
   Glucose
   166
   132
   150
   157
   Other labs: PT / PTT / INR:15.0/32.9/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   FeUrea 44
   Urine osm 582
   Micro: nothing new
   Blood culture from [**9-16**] and [**9-18**]: NGTD
   Sputum culture [**9-18**]: GNR, speciation and sensitivities pending:
   [**2184-9-18**] SPUTUM GRAM STAIN: 1+ GRAM NEGATIVE ROD(S).
              RESPIRATORY CULTURE (Preliminary):
STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   Urine culture from [**9-17**] and [**9-18**]: neg final read
   C Diff negative x2
   Imaging:
   CXR today: my read: decreased consolidation/effusions in the bases
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  [**2-2**] to PNA and secretions but s/p successful
   extubation this AM.  Sputum culture grew out GNR, speciation pending.
   Also has MSSA in sputum.
   - continued large amounts of secretions with decreased ability to clear
   - satting well on face tent currently
   - already completed 8d course of cefepime and vanco
   - discontinued levofloxacin yesterday after completing 8d course
   - d/ced flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities
   - conisder Lasix PRN to diurese further
   - continue nebs, suctioning, MIE
   - PT consult with increased ambulation
   .
   # Sepsis: no longer requiring pressors and stable blood pressures.  The
   source of infection is most likely pulmonary given his pneumonia seen
   on CXR. Sputum culture grew out GNR, speciation pending.
   - leukocytosis is trending up but patient remains afebrile with
   improved CXR and clinical improvement; consider infectious etiology vs.
   recent steroids (prior to extubation)
   - pan culture today;  f/u on sputum culture speciation of GNR and
   sensitivities.  Fu blood and urine cultures
   - treat the underlying infection
 8d course of cefepime, vanco and
   levoquin.
   - SBP > 90
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  better controlled
   - continue home PO meds atenelol 100mg daily and HCTZ 25mg daily
   - added Lisinopril 5 mg daily as BP still uncontrolled
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.
   - hct trending upwards, now 26.  Continue to monitor, will check in AM
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na 130 this AM.  Hypovolemic hyponatremia?
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   - urine lytes today
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - can consider anti-depressants when pt is not sedated
   - f/u SW recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-25**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU bc of copius secretions requiring frequent
   suctioning

2184-09-26 08:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo male with SqCCa of thorat and hx of CVA admitted with weakness
   and tx'd to [**Hospital Unit Name 1**] for acute respiratory failure seconday to MSSA PNA-
   intubated [**Date range (1) 10330**]
   24 Hour Events:
 ARTERIAL LINE - STOP [**2184-9-25**] 03:10 PM
   Finished a course of levaquin
   Lisinopril added
   Still with copious, thick, discolored secretions- pt uncomfortable with
   NT suction, but still requiring cough-inexsufflator. Has weak cough and
   gag.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-9-24**] 07:47 AM
   Cefipime - [**2184-9-24**] 09:00 AM
   Levofloxacin - [**2184-9-25**] 01:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-25**] 04:09 PM
   Other medications:
   [**Last Name (LF) 10332**], [**First Name3 (LF) **], atenolol, HCTZ, alb/atrovent nebs, lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-26**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 92 (77 - 97) bpm
   BP: 152/71(92) {135/53(73) - 163/92(100)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,088 mL
                                                                    240 mL
   PO:
                  TF:
                                                                    653 mL
                                                                    240 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,200 mL
   Urine:
                                                                  2,380 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                   -961 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   HEENT: PERRL, Face tent
   Lungs: congested with wheezing at apices and scattered rhonchi
   CV: RRR
   Abd: soft, nontender, bs
   Peripheral Vascular: (2+ radial/DP pulses
   Ext: bilateral boots
   Skin:  normal turgor, no rashes
   Neurologic: Responds to: verbal stimuli, Movement: purposeful, Tone:
   normal
   Labs / Radiology
   8.9 g/dL
   552 K/uL
   157 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   91 mEq/L
   130 mEq/L
   26.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2184-9-22**]  03:18 PM
                             [**2184-9-23**]  04:10 AM
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
   WBC
   12.4
   16.5
   17.6
   21.0
   Hct
   23.6
   21.9
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   Plt
   366
   442
   532
   552
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   36
   Glucose
   166
   132
   150
   157
   Other labs: PT / PTT / INR:15.0/32.9/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Micro: no new data
   CXR: still with ?atelectasis/infiltrate on right; overall lung fields
   more clear
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   1. Acute resp failure:
   Improved, but continues to have significant secretions requiring
   frequent nursing care and mechanical insufflation-exsufllation
   *On atrovent + albuterol nebs, suction prn
   *Nursing and resp care needs too high to manage on hospital floor
   *Continue MIE
   *PT and get pt OOB
   2. Leukocytosis: upwards trend over the past 3-4 days- will
   pan-culture. Unclear source as pt clinically appears improved and has
   no indwelling lines
   3. Sepsis: resolved, normotensive
   4. SqCCa
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-25**] 04:09 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-25**] 10:48 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 32 minutes
   Pt is critically ill

2184-09-28 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 68 yo M with PMH of stage III squamous cell throat CA
   admitted for weakness, PNA found on [**Hospital 10067**] transferred from oncology
   service for hypoxia
   24 Hour Events:
   - still requiring oxygen, resp symptoms improving
   - using MIE q4h to help get out secretions
   - sputum cx [**9-26**] No organisms seen to date
   - hyponatremia stable at 130 w no mental status changes; may be
   hypovolemic etiology-- he had gotten some lasix previously
   - blood sugars noted to be elevated since admission but even higher
   today; started checking fingersticks and added insulin sliding scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2184-9-25**] 01:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-27**] 07:49 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-28**] 12:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-28**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 101 (76 - 101) bpm
   BP: 152/63(85) {98/37(57) - 152/64(85)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,504 mL
                                                                    421 mL
   PO:
                  TF:
                                                                  1,444 mL
                                                                    421 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    580 mL
   Urine:
                                                                  1,440 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   Gen: awake, alert and oriented
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   598 K/uL
   7.7 g/dL
   182 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   96 mEq/L
   134 mEq/L
   23.0 %
   21.7 K/uL
        [image002.jpg]
   Na: yesterday 130
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   Hct
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   36
   36
   Glucose
   132
   150
   157
   175
   182
   Other labs: PT / PTT / INR:14.7/32.1/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Urine Culture [**9-26**]: No growth
   Blood Culture [**9-26**]: NGTD
   Stool Culture [**9-26**]: C. diff negative
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  [**2-2**] to PNA and secretions but s/p successful
   extubation [**9-26**].  Sputum culture grew out GNR, speciation pending.
   Also has MSSA in sputum.
   - continued large amounts of secretions every hour
   - satting well on face tent currently; desats to high 80s- low 90
s off
   of face tent.
   - already completed 8d course of cefepime and vanco
   - discontinued levofloxacin [**9-25**] after completing 8d course
   - d/ced flagyl as no other bugs are growing in cultures
   - f/u sputum culture GNR speciation and sensitivities ([**9-18**]) [**9-26**]
   culture was no growth
   - continue nebs, suctioning, MIE
   - PT consult with increased ambulation
   - Continue MIE
   .
   # Sepsis: no longer requiring pressors and stable blood pressures.  The
   source of infection is most likely pulmonary given his pneumonia seen
   on CXR. Sputum culture grew out GNR, speciation pending.
   - leukocytosis is trending up but patient remains afebrile with
   improved CXR and clinical improvement; consider infectious etiology vs.
   recent steroids (prior to extubation);
   - pan cultures pending
   - treat the underlying infection
 8d course of cefepime, vanco and
   levoquin.
   - SBP > 90
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  better controlled
   - continue home PO meds atenelol 100mg daily and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.
   - hct trending down, now 23.  Continue to monitor
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved to 134 this AM.  Hypovolemic hyponatremia?
   - maintain MAP goal >65, CVP>[**10-11**] and UOP>30cc/hr
   - continue to monitor
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs
   # High Blood Sugars: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-25**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-19**] 08:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 2185**]
   [**Name (NI) 36**] status: Full code
   Disposition: continue ICU for now

2184-09-28 13:28:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   WBC down slightly this AM.
   Still has need for moderate amount of oxygen supplementation.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-28**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-28**] 08:05 AM
   Other medications:
   Atrovent, albuterol, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-28**] 01:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 82 (78 - 101) bpm
   BP: 119/50(67) {98/37(58) - 152/63(85)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,504 mL
                                                                    807 mL
   PO:
             TF:
                                                                  1,444 mL
                                                                    797 mL
   IVF:
                                                                     60 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    760 mL
   Urine:
                                                                  1,440 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   Upper airway rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   598 K/uL
   182 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.9 mEq/L
   19 mg/dL
   96 mEq/L
   134 mEq/L
   23.0 %
   21.7 K/uL
        [image002.jpg]
                             [**2184-9-23**]  04:24 AM
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   Hct
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   36
   36
   Glucose
   132
   150
   157
   175
   182
   Other labs: PT / PTT / INR:14.7/32.1/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   =========================
   Patient feeling stronger. Cough  more effective. Begin incentive
   spirometer. Continue physical therapy.
   Hct down slightly in past few days. No evidence of active bleeding. Not
   at transfusion threshold.
   Has completed all antibiotics.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-27**] 09:47 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-9-25**] 10:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-09-29 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Incentive spirometer- patient could not tolerate
   - Follow up with PT- walked down the [**Doctor Last Name **]
   - change to nasal cannula overnight and kept face tent b/c of humidity,
   not b/c of oxygenation. He has been on and off of face tent and
   saturating well
   - taken off oxygen this AM, tolerating well but with loud secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-9-28**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2184-9-29**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-29**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (78 - 105) bpm
   BP: 149/60(82) {89/43(51) - 165/75(95)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,470 mL
                                                                    441 mL
   PO:
                  TF:
                                                                  1,440 mL
                                                                    441 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    405 mL
   Urine:
                                                                  1,245 mL
                                                                    405 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -175 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Gen: awake, alert and oriented
   HEENT:  secretions in back of throat, no gag reflex when suctioned
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly, likely upper airway
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   629 K/uL
   7.6 g/dL
   147 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   96 mEq/L
   137 mEq/L
   23.5 %
   16.9 K/uL
        [image002.jpg]
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   16.9
   Hct
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   23.5
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   629
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   Glucose
   132
   150
   157
   175
   182
   147
   Other labs: PT / PTT / INR:14.3/33.4/1.2, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Sputum [**9-18**] Cx:  Rare Growth Staph Aureus
     STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure:  Resolved.  Likely secondary  to PNA and
   secretions and s/p successful extubation [**9-26**].  Sputum culture grew out
   GNR, speciation pending.  Also has MSSA in sputum.  Continues to have
   significant amounts of secretions, which appear to mostly upper airway,
   but difficult to distinguish whether he might have some lower airway
   sputum as well.  He did complete a full course of antibiotics for the
   pneumonia (levofloxacin, cefepime, vancomycin) and is no longer
   septic.  No growth on [**9-26**] sputum culture.
   - Start incentive spirometer today
   - continue nebs, suctioning
   - Continue MIE
   - Continue ambulating with PT
   .
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  better controlled
   - continue home PO meds atenelol 100mg daily and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.  Hct stable
   at 23 now, though have trended down over hospitalization.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved and stable at 137 this AM.  [**Month (only) 51**] have been
   Hypovolemic hyponatremia.
   - continue to trend
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-28**] 07:06 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  PPI
   VAP:  VAP Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code  ([**Hospital Unit Name 1**] team attempted to have discussion about
   code status today, but pt was very focused on just going home and did
   not cooperate with discussion)
   Disposition:

2184-09-29 10:41:00 Physician Attending Progress Note
Chief Complaint: Pnemonia, respiratory distress, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient did not like using incentive spirometer. Force of cough
   slightly improved. Ambulating more.
   Oxygen saturations improved; no longer requiring supplemental oxygen.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-29**] 08:00 AM
   Other medications:
   ASA, atenolol, HCTZ, atrovent, albuterol, lisinopril, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-29**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 90 (78 - 106) bpm
   BP: 153/67(89) {89/43(51) - 165/75(95)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,470 mL
                                                                    626 mL
   PO:
                  TF:
                                                                  1,440 mL
                                                                    626 mL
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    805 mL
   Urine:
                                                                  1,245 mL
                                                                    805 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -175 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), Coarse,
   diffuse, large airway sounds.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   629 K/uL
   147 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   96 mEq/L
   137 mEq/L
   23.5 %
   16.9 K/uL
        [image002.jpg]
                             [**2184-9-23**]  02:28 PM
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   16.9
   Hct
   31.5
   22.7
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   23.5
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   629
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   Glucose
   132
   150
   157
   175
   182
   147
   Other labs: PT / PTT / INR:14.3/33.4/1.2, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   =========================
   Patient takes good inspirations but seems to have problems closing
   vocal cords to generate high intrathoracic pressure. Will try to get
   information re: location of tumor and affect on cords. Seems to be
   having problems with oral secretions. Consider scopolamine. Has no gag
   reflex. [**Month (only) 51**] need trach to truly resolve this problem.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-28**] 07:06 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-09-30 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Towards a.m, pt started becoming tachypneic with HR in mid 120
s, ,
   BP in mid 160-170 systolic. Pt very wheezy.  Pt appears to be in
   distress,  although he deniesit. Says he feels fine. Lasix 10 mg IV and
   Morphine 1 mg IV given  with very little effect. Neb treatments  given
   with mild response: MIE given with chest PT with minimal to mild
   improvement. Still with diminished cough, attempting to cough, with
   very minimal production of sputum.
   HR started to increase around 0000, peaked in the 120s and continues to
   be 110s. RR has been in the 20s, peaked into the 30s this AM and now in
   the 20s
   SpO2: off face tent decreased to 90-91%; increased on face tent to mid
   to upper 90s.
   - per oncologist given function prior to this episode doesn't feel that
   a trach is necessary at this point
   - pt had fall where he tried to walk to bed, did not hit his head, no
   LOC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-9-29**] 08:00 AM
   Furosemide (Lasix) - [**2184-9-30**] 05:00 AM
   Morphine Sulfate - [**2184-9-30**] 05:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-30**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 121 (86 - 121) bpm
   BP: 170/94(112) {128/56(74) - 175/96(112)} mmHg
   RR: 31 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,440 mL
                                                                    266 mL
   PO:
                  TF:
                                                                  1,440 mL
                                                                    266 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    550 mL
   Urine:
                                                                  2,565 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,125 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   Gen: awake, alert and oriented
   HEENT:  secretions in back of throat, no gag reflex when suctioned
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly, likely upper airway
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   745 K/uL
   8.1 g/dL
   182 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.0 mEq/L
   15 mg/dL
   92 mEq/L
   133 mEq/L
   24.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2184-9-23**]  04:23 PM
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   16.9
   16.3
   Hct
   22.7
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   23.5
   24.9
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   629
   745
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   36
   Glucose
   132
   150
   157
   175
   182
   147
   182
   Other labs: PT / PTT / INR:14.5/33.7/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   No new culture data
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Likely secondary  to PNA and secretions and s/p
   successful extubation [**9-26**].  Sputum culture grew out GNR, speciation
   pending.  Also has MSSA in sputum.  worsening ability to cough (likely
   cannot close glottis), no gag reflex, stridorous this AM.  He did
   complete a full course of antibiotics for the pneumonia (levofloxacin,
   cefepime, vancomycin) and is no longer septic.  Currently increased wob
   and patient
s cough is decreasing in effort. DDx: increased secretions
   and mucus plugging (more likely) vs  PE
   - aggressive pulmonary toileting/chest PT
   - continue nebs, suctioning, MIE
   - conversation w wife about trach; if potentially curable, trach may
   help him do better for longer
   - Readdress code status
   - talk to social work about scheduling meeting
   - talk to ENT about trach position and risk of causing damage in
   context of tumor
   - Screening for pulmonary rehab; will touch base with case management
   today.
   # Metabolic Alkalosis:  hypokalemia may be contributing.  [**Month (only) 51**] have also
   had some contraction alkalosis with the lasix.  This may be the cause
   of worsening tachypnea early this AM to compensate for a worsening
   alkalosis.
   - help treat metabolic alkalosis by replacing K+ to 4.5 ; likely has
   the respiratory acidosis in response to a worsening metabolic alkalosis
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   - oncologist believes that patient has 50% survival chance, so trach
   may be beneficial to prevent adverse events in the meantime w increased
   secretions and possib mucus plugging complications
   .
   # HTN:  He continues to get all meds in AM; has increased BP in AM just
   prior to meds.
   - Will check BP this PM at [**2174**]; if elevated with give metoprolol
   - will change atenolol to evening dose tomorrow since she already
   received her AM dose.
   - continue home PO meds atenelol 100mg daily and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.  Hct stable
   at 23 now, though have trended down over hospitalization.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved and stable at 133 this AM.  [**Month (only) 51**] have been
   Hypovolemic hyponatremia.
   - continue to trend
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs if any
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-28**] 07:06 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  PPI
   VAP:  VAP Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code  ([**Hospital Unit Name 1**] team attempted to have discussion about
   code status today, but pt was very focused on just going home and did
   not cooperate with discussion) - - need to readdress code status, per
   the wife he had previously said that he didn't want to be intubated
   again, but not able to understand any questions about code status and
   the wife [**Name (NI) 10420**]'t commit
   Disposition: - screen for pulmonary rehab pending

2184-09-30 10:36:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, respiratory distress, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient developed tachypnea and tachycardia in early hours of the
   morning. Given lasix and morphine without much change. Given chest PT.
   O2 sats not signficiantly changed. ABG showed showed alkalemia with
   hypercapnia. ECG without acute ischemic changes; no evidence of acute
   right heart strain. Remains afebrile.
   Fluid balance negative for the past 24 hours and since midnight.
   Patient had fall to his knees yesterday while ambulating in the room.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-9-30**] 05:00 AM
   Morphine Sulfate - [**2184-9-30**] 06:00 AM
   Other medications:
   heparin sc, protonix, ASA, atenolol, HCTZ, albuterol, atrovent,
   lisinopril, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-9-30**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 90 (86 - 126) bpm
   BP: 154/58(83) {128/56(74) - 175/96(112)} mmHg
   RR: 24 (21 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 57.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,441 mL
                                                                    625 mL
   PO:
                  TF:
                                                                  1,441 mL
                                                                    420 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                  1,580 mL
   Urine:
                                                                  2,565 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,124 mL
                                                                   -955 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: 7.43/55/77/33/9
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild resp
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Few
   scattered), Stridor
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   745 K/uL
   182 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.0 mEq/L
   15 mg/dL
   92 mEq/L
   133 mEq/L
   24.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2184-9-24**]  04:43 AM
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
   WBC
   16.5
   17.6
   21.0
   24.6
   21.7
   16.9
   16.3
   Hct
   23.0
   23.7
   24.4
   26.9
   25.5
   23.0
   23.5
   24.9
   Plt
   [**Telephone/Fax (3) 10369**]46
   598
   629
   745
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   36
   38
   Glucose
   132
   150
   157
   175
   182
   147
   182
   Other labs: PT / PTT / INR:14.5/33.7/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: no new infiltrates. Smaller lung volumes.
   ECG: No acute ischemic changes. No right heart strain.
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   RESPIRATORY DISTRESS
   =====================
   Episode of respiratory distress unclear. [**Name2 (NI) **] likely scenario would be
   mucus plug given his relatively weak cough. Patient appears better now.
   Acute pulmonary edema from ischemia seems less likely given ECG and
   lack of response to lasix. Doubt pulmonary embolism without change in
   oxygen saturations. Concern this AM about presence of stridor. I
   continue to believe that his problems with coughing are largely related
   to an inability to close his glottis. Would like ENT to see him re:
   evaluation of possible paralyzed vocal cord or other structural problem
   given his hx of neoplasm.
   Hct stable. Not at transfusion threshold.
   Alkalemia probably related to negative fluid balance the last few days.
   Push repleation of KCl.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2184-10-01 04:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2184-9-30**] 09:29 AM
   - worsening ability to cough (likely cannot close glottis), no gag
   reflex, stridorous this AM
   - DDx: increased secretions and mucus plugging (more likely) vs PE
   (unlikely)
   - aggressive pulmonary toileting/chest PT
   - conversation w wife about trach; if potentially curable, trach may
   help him do better for longer
   - Readdress code status
   - talk to social work about scheduling meeting
   - Screening for pulmonary rehab
   - ENT looked down patient's throat and saw greenish secretions caked in
   back of throat --> started saline nebs in addition to continuing
   humidified air with mask
   - DCed scopolamine (pt did not receive it previously b/c he refused it)
   - because pt appears to have increased blood pressures at night, likely
   bc all bp meds are in AM, his atenolol was switched to start in PM
   [**10-1**] with metoprolol one-time dosing for the AM to carry him over
   - goal to help treat metabolic alkalosis by replacing K+ to 4.5--> was
   replaced to 4.4 ; likely has the respiratory acidosis (tachypnea) in
   response to a worsening metabolic alkalosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-9-30**] 05:00 AM
   Morphine Sulfate - [**2184-9-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-1**] 04:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 101 (83 - 126) bpm
   BP: 169/55(82) {93/39(55) - 171/102(112)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 57.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,505 mL
                                                                    252 mL
   PO:
                  TF:
                                                                  1,145 mL
                                                                    252 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    400 mL
   Urine:
                                                                  1,860 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -855 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: 7.43/55/77/34/9
   PaO2 / FiO2: 193
   Physical Examination
   Gen: awake, alert and oriented
   HEENT:  secretions in back of throat, no gag reflex when suctioned
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly, likely upper airway
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   745 K/uL
   8.1 g/dL
   154 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   19 mg/dL
   93 mEq/L
   135 mEq/L
   24.9 %
   16.3 K/uL
        [image002.jpg]
                             [**2184-9-24**]  04:26 PM
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
   WBC
   17.6
   21.0
   24.6
   21.7
   16.9
   16.3
   Hct
   23.7
   24.4
   26.9
   25.5
   23.0
   23.5
   24.9
   Plt
   532
   552
   546
   598
   629
   745
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   36
   38
   Glucose
   150
   157
   175
   182
   147
   182
   154
   Other labs: PT / PTT / INR:14.5/33.7/1.3, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Likely secondary  to PNA and secretions and s/p
   successful extubation [**9-26**].  Sputum culture grew out GNR, speciation
   pending.  Also has MSSA in sputum.  worsening ability to cough (likely
   cannot close glottis), no gag reflex, stridorous this AM.  He did
   complete a full course of antibiotics for the pneumonia (levofloxacin,
   cefepime, vancomycin) and is no longer septic.  Currently increased wob
   and patient
s cough is decreasing in effort. DDx: increased secretions
   and mucus plugging (more likely) vs  PE
   - aggressive pulmonary toileting/chest PT
   - continue nebs, suctioning, MIE
   - conversation w wife about trach; if potentially curable, trach may
   help him do better for longer
   - Readdress code status
   - talk to social work about scheduling meeting
   - talk to ENT about trach position and risk of causing damage in
   context of tumor
   - Screening for pulmonary rehab; will touch base with case management
   today.
   # Metabolic Alkalosis:  hypokalemia may be contributing.  [**Month (only) 51**] have also
   had some contraction alkalosis with the lasix.  This may be the cause
   of worsening tachypnea early this AM to compensate for a worsening
   alkalosis.
   - help treat metabolic alkalosis by replacing K+ to 4.5 ; likely has
   the respiratory acidosis in response to a worsening metabolic alkalosis
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider CT neck if the
   neck mass seems to be impeding the airway
   - S&S following
   - oncologist believes that patient has 50% survival chance, so trach
   may be beneficial to prevent adverse events in the meantime w increased
   secretions and possib mucus plugging complications
   .
   # HTN:  He continues to get all meds in AM; has increased BP in AM just
   prior to meds.
   - Will check BP this PM at [**2174**]; if elevated with give metoprolol
   - will change atenolol to evening dose tomorrow since she already
   received her AM dose.
   - continue home PO meds atenelol 100mg daily and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.  Hct stable
   at 23 now, though have trended down over hospitalization.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved and stable at 133 this AM.  [**Month (only) 51**] have been
   Hypovolemic hyponatremia.
   - continue to trend
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs if any
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-30**] 11:55 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  PPI
   VAP:  VAP Bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: - screen for pulmonary rehab pending

2184-10-01 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient evaluated by ENT yesterday. Large amount of dried secretions
   partially obstruting larynx. Last night, patient desaturated and
   required higher FIO2 and use of cough assistance to reduce respiratory
   distress and get improved O2 sats.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2184-9-30**] 09:29 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-1**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-1**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 98 (88 - 109) bpm
   BP: 126/58(74) {99/39(55) - 169/102(108)} mmHg
   RR: 26 (26 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,505 mL
                                                                    734 mL
   PO:
                  TF:
                                                                  1,145 mL
                                                                    734 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    680 mL
   Urine:
                                                                  1,860 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -855 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///35/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Moderate
   use of accessory muscles of ventilation
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , Diminished: At bases, No(t) Absent : , No(t) Rhonchorous:
   ), Stridor present
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   762 K/uL
   196 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   19 mg/dL
   93 mEq/L
   135 mEq/L
   26.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2184-9-25**]  05:05 AM
                             [**2184-9-25**]  05:35 AM
                             [**2184-9-26**]  04:59 AM
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
   WBC
   17.6
   21.0
   24.6
   21.7
   16.9
   16.3
   17.5
   Hct
   24.4
   26.9
   25.5
   23.0
   23.5
   24.9
   26.3
   Plt
   532
   552
   546
   598
   629
   745
   762
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   150
   157
   175
   182
   147
   182
   154
   196
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   =================================
   Patient continues  to have stridor and ENT observed inspissated
   secretions above cords. Will ask IP to see if they can do laryngoscopy
   and remove dried secretions obstructing the airway with a forceps. If
   this does not work, I suspect he will need trach. Patient is at risk
   for acute airway obstruction.
   Remains afebrile. Hemodynamically stable.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-30**] 11:55 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2184-10-02 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ENT came by and suctioned all dried secretions out. Patient with
   redundant supraglottic tissue, but they pushed it back with a probe and
   it did not change is breathing. Likely secretions are cause of stridor
   as stridor disappeared after suctioning. Will continue nasal spray and
   humidified air with face tent.
   - 2300: incresed work of breathing. unable to use MIE b/c couldn't
   cough enough. nebs and suction given with little effect. ABG:
   7.37/68/129 -> started bipap. Repeat gas unchanged at 7.36/69/139.
   Continued bipap with prn morphine given for comfort and decrease RR as
   patient was breathing into 40s and up to 50/minute.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-2**] 12:48 AM
   Morphine Sulfate - [**2184-10-2**] 04:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-2**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 87 (80 - 113) bpm
   BP: 130/56(75) {119/50(68) - 168/82(102)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,443 mL
                                                                    175 mL
   PO:
                  TF:
                                                                  1,443 mL
                                                                    175 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    320 mL
   Urine:
                                                                  1,290 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 587 (587 - 587) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.36/69/139/37/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: awake, alert and oriented
   HEENT:  secretions in back of throat, no gag reflex when suctioned
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly, likely upper airway
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   780 K/uL
   8.3 g/dL
   159 mg/dL
   0.6 mg/dL
   37 mEq/L
   5.0 mEq/L
   22 mg/dL
   96 mEq/L
   138 mEq/L
   26.2 %
   18.2 K/uL
        [image002.jpg]
                             [**2184-9-27**]  03:53 AM
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
   WBC
   24.6
   21.7
   16.9
   16.3
   17.5
   18.2
   Hct
   25.5
   23.0
   23.5
   24.9
   26.3
   26.2
   Plt
   546
   598
   629
   745
   762
   780
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   38
   41
   41
   Glucose
   175
   182
   147
   182
   154
   196
   159
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %, Mono:6.8 %,
   Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   CXR: No significant interval change
   - Echo: No signs of RV strain...decreased LVEF of 40% compared to
   previous study with 1 + MR. mild global [**Hospital1 **]-v systolic dysfunction.
   Micro: BCx pending from [**9-26**]
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Likely secondary  to PNA and secretions and s/p
   successful extubation [**9-26**].  Sputum culture grew out GNR.  Also has
   MSSA in sputum.  He did complete a full course of antibiotics for the
   pneumonia (levofloxacin, cefepime, vancomycin) and is no longer septic.
   Worsening ability to cough (likely cannot close glottis), no gag
   reflex, rhonchi increasing, and worsening WOB and tachypnea overnight
   with large tidal volumes  in the setting of a respiratory acidosis
   suggestive of increased dead space leading to ventilatory failure.  ENT
   consulted: very thick matted dried secretions above the vocal cords. At
   risk for acute airway obstruction. CXR unremarkable.
   - C/S ENT for trach this weekend as laryngeal clearing by ENT was only
   a short term fix and patient has tenious airway.
   - aggressive pulmonary toileting/chest PT
   - continue nebs, suctioning, MIE, saline spray
   - conversation w patient and wife about trach; if potentially curable,
   trach may help him do better for longer
   - Readdress code status
   - consider talking to social work about scheduling meeting
   - ENT: since no surgery of neck, it does not matter where trach is
   placed
   - Screening for pulmonary rehab pending
   # Metabolic Alkalosis:  Worsening. [**Month (only) 51**] have also had some contraction
   alkalosis as patient appears dry by labs.  Also, frequent suctioning
   can cause this. Given 500 cc of NS overnight with minimal effect on
   acid/base.  Worsening metabolic alkalosis on top of a respiratory
   acidosis.
   - help treat metabolic alkalosis by replacing K+ to 4.5
   - NS boluses prn
   - Check urine Cl- today
   # Leukocytosis: Initially thought due to steroids patient received. Now
   increasing. Patient remains afebrile and clinically does not appear
   infected. Respiratory status thought due to secretions, but cannot rule
   out infection as possible inciting factor. Diff shows left shift.
   - continue to monitor for s/sx of infection
   - daily cbc
   - Pan-culture today
   - f/u blood cultures
   - Since no clinical signs of infection, will not treat yet
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider repeat CT neck if
   the neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  Stable
   - Continue atenolol qhs
   - continue home PO meds atenelol 100mg qhs and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.  Hct stable
   at 23 now, though have trended down over hospitalization.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved and stable at 138 this AM.  [**Month (only) 51**] have been
   Hypovolemic hyponatremia.
   - continue to trend
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs if any
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-9-30**] 11:55 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-9-28**] 08:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:  PPI
   VAP:  VAP Bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: - screen for pulmonary rehab pending

2184-10-02 09:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2184-10-2**] 12:43 AM
   -Patient with good tolerance of clearance of secretions yesterday with
   ENT procedure
   -Patient then has had persistence of significant work of breathing
   despite
   7.37/68/129
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-2**] 12:48 AM
   Morphine Sulfate - [**2184-10-2**] 04:24 AM
   Pantoprazole (Protonix) - [**2184-10-2**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-10-2**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 91 (80 - 113) bpm
   BP: 121/55(70) {119/50(68) - 164/82(99)} mmHg
   RR: 22 (17 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.2 kg (admission): 58.9 kg
   Height: 67 Inch
                  Total In:
                                                                  1,443 mL
                                                                    175 mL
   PO:
                  TF:
                                                                  1,443 mL
                                                                    175 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    460 mL
   Urine:
                                                                  1,290 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    153 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 304 (304 - 587) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.45/55/57/37/11
   Ve: 11.2 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: All
   extremities
   Labs / Radiology
   8.3 g/dL
   780 K/uL
   159 mg/dL
   0.6 mg/dL
   37 mEq/L
   5.0 mEq/L
   22 mg/dL
   96 mEq/L
   138 mEq/L
   26.2 %
   18.2 K/uL
        [image002.jpg]
                             [**2184-9-28**]  04:25 AM
                             [**2184-9-29**]  03:21 AM
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
   WBC
   21.7
   16.9
   16.3
   17.5
   18.2
   Hct
   23.0
   23.5
   24.9
   26.3
   26.2
   Plt
   598
   629
   745
   762
   780
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   TCO2
   38
   41
   41
   39
   Glucose
   182
   147
   182
   154
   196
   159
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:/5/0.01, ALT / AST:28/33, Alk Phos / T Bili:102/0.7, Amylase
   / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %, Mono:6.8 %,
   Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:191 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR-Lateral segment right middle lobe opacity with improved
   lung volumes seen
   Assessment and Plan
   68 yo male with history of SCCA--neck, now admitted with right middle
   lobe pneumonia with respiratory failure and now with prolonged ICU
   course with continued hypoxia and difficulty with secrection clearance.
   He has had continued respiratory distress and difficulty with secretion
   clearance and has evolved a picture of chronic respiratory acidosis and
   now has had evolution of significantly decreased mental status all very
   concerning for progression of his respiratory failure now to the point
   of being unable to maintain adequate stability of his airway for
   clearance of secretions and evolved elevations in CO2 yesterday
   although pH remained normal in the setting of what may well have been
   at the time respiratory acidosis and metabolic alkalosis.  This morning
   BIPAP was discontinued
   1)Respiratory Failure-
   -ALb/Atrovent to aid in minimization of bronchospasm
   -Patient does have evidence of persistent secretions but was able to
   tolerate BIPAP overnight
   -He may have had some edema/irritation following upper airway
   suctioning performed
   -If we are unable to maintain patient with stable capacity to maintain
   adequate secretion clearance will need to consider tracheostomy
   placement.
   -In addition, patient has continued high respiratory rate and high
   tidal volme which would argue for significant dead space ventilation at
   this time in the setting of persistent respiratory acidosis.
   -We will need to establish source of metabolic alkalosis and will look
   to urine Cl- to establish need for fluid replacement which is
   likely
will pursue Normal Saline this morning
   -Given high RR and high Vt suggested this morning dead space
   ventilation is impessive and this may be fixed defect with underlying
   lung disease
although this could be a contribution from hypovolemia and
   increased zone 1 physiology concern for fixed defect is significant.
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-10-2**] 01:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will pursue trach to allow advancement of
   care as we have been unable to advance care without stable airway and
   capacity to clear secretions and maintain stable support
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-10-03 05:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ENT agreed and placed a trach on Saturday afternoon, with significant
   improvement in his respiratory status, patient currently on trach mask
   at 40% FiO2, will wean as tolerated
   -Pt with SBP
s in the 80
s was given 2L NS boluses and then continued
   on 150cc/hr NS, with improvement in SBP
s to the 130
   -WBC increased to 20.9
   -Pt. with some ST changes on telemetry, EKG with new T wave inversions
   in V2-V5, patient CP free, cycling CE's
   -Pt. finally sleeping well and resting comfortably
   -Holding tube feeds post procedure per ENT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-2**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-3**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 82 (80 - 100) bpm
   BP: 115/46(63) {88/33(48) - 149/67(99)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,161 mL
                                                                  2,231 mL
   PO:
             TF:
                                                                    175 mL
   IVF:
                                                                  1,926 mL
                                                                  2,231 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    110 mL
   Urine:
                                                                  1,100 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                  2,121 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: none
   Vt (Spontaneous):
   PS :
   RR (Spontaneous):
   PEEP:
   FiO2: 40%
   PIP:
   SpO2: 100%
   ABG: 7.45/55/57/28/11
   Ve:
   PaO2 / FiO2:
   Physical Examination
   Gen: awake, alert and oriented
   HEENT:  secretions in back of throat, no gag reflex when suctioned
   Neck: no LAD. JVP flat
   CV: RRR, no murmurs
   Lungs: diffuse rhonchi anteriorly, likely upper airway
   Abd: soft, nondistended, [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   Ext: no edema
   Labs / Radiology
   651 K/uL
   7.5 g/dL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   26 mg/dL
   104 mEq/L
   143 mEq/L
   23.2 %
   20.9 K/uL
        [image002.jpg]
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
   WBC
   16.3
   17.5
   18.2
   20.9
   Hct
   24.9
   26.3
   26.2
   23.2
   Plt
   745
   762
   780
   651
   Cr
   0.5
   0.6
   0.6
   0.6
   0.8
   TropT
   0.07
   TCO2
   38
   41
   41
   39
   Glucose
   182
   154
   196
   159
   89
   Other labs:
   CK: 41 CK-MB:5  Troponin-T: 0.07
   CK: 59 CK-MB:    Troponin-T:
   Ca: 8.2, Mg: 2.2, Phos: 3.8
   Microbiology:
   C.diff: negative
   Blood Cx ([**10-2**]): NGTD
   Urine Cx ([**10-2**]): NGTD
   Imaging:
   Chest X-Ray ([**10-3**]): my read-worsening of LLL opacity that obscures left
   heart border
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Likely secondary  to PNA and secretions and s/p
   successful extubation [**9-26**].  Sputum culture grew out GNR.  Also has
   MSSA in sputum.  He did complete a full course of antibiotics for the
   pneumonia (levofloxacin, cefepime, vancomycin) and is no longer septic.
   Worsening ability to cough (likely cannot close glottis), no gag
   reflex, rhonchi increasing, and worsening WOB and tachypnea two nights
   ago.  He was re-evaluated by ENT yesterday morning, who agreed to place
   a tracheostomy to help secure his airway.
   overnight with large tidal volumes  in the setting of a respiratory
   acidosis suggestive of increased dead space leading to ventilatory
   failure.  ENT consulted: very thick matted dried secretions above the
   vocal cords. At risk for acute airway obstruction. CXR unremarkable.
   - C/S ENT for trach this weekend as laryngeal clearing by ENT was only
   a short term fix and patient has tenious airway.
   - aggressive pulmonary toileting/chest PT
   - continue nebs, suctioning, MIE, saline spray
   - conversation w patient and wife about trach; if potentially curable,
   trach may help him do better for longer
   - Readdress code status
   - consider talking to social work about scheduling meeting
   - ENT: since no surgery of neck, it does not matter where trach is
   placed
   - Screening for pulmonary rehab pending
   # Metabolic Alkalosis:  Worsening. [**Month (only) 51**] have also had some contraction
   alkalosis as patient appears dry by labs.  Also, frequent suctioning
   can cause this. Given 500 cc of NS overnight with minimal effect on
   acid/base.  Worsening metabolic alkalosis on top of a respiratory
   acidosis.
   - help treat metabolic alkalosis by replacing K+ to 4.5
   - NS boluses prn
   - Check urine Cl- today
   # Leukocytosis: Initially thought due to steroids patient received. Now
   increasing. Patient remains afebrile and clinically does not appear
   infected. Respiratory status thought due to secretions, but cannot rule
   out infection as possible inciting factor. Diff shows left shift.
   - continue to monitor for s/sx of infection
   - daily cbc
   - Pan-culture today
   - f/u blood cultures
   - Since no clinical signs of infection, will not treat yet
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - pt noted to have a increased right neck mass per nursing
   - f/u Onc recs (Dr. [**First Name (STitle) 3805**] following): can consider repeat CT neck if
   the neck mass seems to be impeding the airway
   - S&S following
   .
   # HTN:  Stable
   - Continue atenolol qhs
   - continue home PO meds atenelol 100mg qhs and HCTZ 25mg daily
   - continue Lisinopril 5 mg daily as BP still uncontrolled (re-started
   [**9-25**])
   .
   # Anemia: consistent with ACD. B12, folate levels are wnl.  Hct stable
   at 23 now, though have trended down over hospitalization.
   - hold iron supplements in setting of ICU
   - continue to monitor daily Hcts and transfuse if <21 or active
   bleeding
   .
   # Hyponatremia:  Na improved and stable at 138 this AM.  [**Month (only) 51**] have been
   Hypovolemic hyponatremia.
   - continue to trend
   - urine lytes if Na decreases
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression: currently stable
   - can consider anti-depressants if patient
s symptoms worsen
   - f/u SW recs if any
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition: Will restart tube feeds today
   Glycemic Control:  Humalog Sliding Scale
   Lines:
   20 Gauge - [**2184-10-2**] 01:24 AM
   Prophylaxis:
   DVT:  Restart heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2184-10-03 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2184-10-2**] 10:14 AM
 URINE CULTURE - At [**2184-10-2**] 12:15 PM
 STOOL CULTURE - At [**2184-10-2**] 12:15 PM
 BLOOD CULTURED - At [**2184-10-2**] 12:32 PM
 OR SENT - At [**2184-10-2**] 03:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2184-10-2**] 05:00 PM
 OR RECEIVED - At [**2184-10-2**] 05:01 PM
   -Trach placed yesterday with good response in terms of tolerating
   suctioning, ventilation and oxygenation also substantially easier.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-3**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-10-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-3**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 98 (80 - 100) bpm
   BP: 135/49(71) {88/33(48) - 149/67(99)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,161 mL
                                                                  2,841 mL
   PO:
             TF:
                                                                    175 mL
   IVF:
                                                                  1,926 mL
                                                                  2,751 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    470 mL
   Urine:
                                                                  1,100 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                  2,371 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   651 K/uL
   89 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   26 mg/dL
   104 mEq/L
   143 mEq/L
   23.2 %
   20.9 K/uL
        [image002.jpg]
                             [**2184-9-30**]  04:08 AM
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
   WBC
   16.3
   17.5
   18.2
   20.9
   Hct
   24.9
   26.3
   26.2
   23.2
   Plt
   745
   762
   780
   651
   Cr
   0.5
   0.6
   0.6
   0.6
   0.8
   TropT
   0.07
   0.06
   TCO2
   38
   41
   41
   39
   Glucose
   182
   154
   196
   159
   89
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR--left sided opaticy in lower lobe concerning for new
   infiltrate
   Assessment and Plan
   68 yo male with SCCA lung and now with persistent and recurrent
   respiratory distress with initial insult of Right MIddle Lobe
   pneumonia--now s/p trach secondary so substantially abnormal upper
   airway anatomy and inability to clear secretions adequately.
   1)Respiratory Failure-Tracheostomy clearly with improved capacity to
   maintain patency and allow easy clearance of secretion.
   -Atrovent/Albuterol
   -Cefazolin following trach to complete today
   -Wean O2 as possible today
   2)Pneumonia-He has left sided opacity, elevation in WBC count and
   persistent high secretion volumes
   -Will Rx for hospital acquited pneumonia-_Vanco/Cefepime/Cipro/Flagyl
   -Will use trach for suctioning and maintain cuffed trach
   -Ventilator as needed should worsening be seen
   3)SCCA Neck
   -Further Rx per the primay oncology team
 HYPOTENSION (NOT SHOCK)
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-10-2**] 01:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes

2184-10-04 12:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, anemia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Trach over weekend. Patient had increased sputum and WBC over the
   weekend. Antibiotics started. Temp 100.9 overnight.
   24 Hour Events:
 BLOOD CULTURED - At [**2184-10-4**] 05:02 AM
 URINE CULTURE - At [**2184-10-4**] 05:02 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-3**] 06:21 AM
   Ciprofloxacin - [**2184-10-3**] 10:00 PM
   Cefipime - [**2184-10-4**] 12:30 AM
   Metronidazole - [**2184-10-4**] 04:30 AM
   Vancomycin - [**2184-10-4**] 10:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-4**] 08:00 AM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **], atrovent, albuterol, insulin, atenolol, lisinopril,
   flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-4**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 85 (79 - 100) bpm
   BP: 94/45(57) {94/40(56) - 139/60(80)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  3,771 mL
                                                                  1,390 mL
   PO:
             TF:
                                                                    300 mL
                                                                    695 mL
   IVF:
                                                                  3,051 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    570 mL
   Urine:
                                                                  1,130 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,641 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Coarse upper airway sounds throughout
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG; III/VI abdominal bruit in epigastrium
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   594 K/uL
   139 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.3 mEq/L
   21 mg/dL
   101 mEq/L
   140 mEq/L
   22.3 %
   19.8 K/uL
        [image002.jpg]
                             [**2184-9-30**]  07:03 AM
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
   WBC
   17.5
   18.2
   20.9
   19.8
   Hct
   26.3
   26.2
   23.2
   22.3
   Plt
   [**Telephone/Fax (3) 10511**]94
   Cr
   0.6
   0.6
   0.6
   0.8
   0.7
   TropT
   0.07
   0.06
   TCO2
   38
   41
   41
   39
   Glucose
   154
   196
   159
   89
   139
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   PNEUMONIA
   =========================
   Patient much more comfortable following placement of trach. Having
   large amounts of sputum from trach, most of which he can cough out on
   his own. Antibiotics started. Sputum gram stain shows gram posiitive
   cocci; culture pending. Antibiotic coverage being changed to vanco.
   Hct slowly falling. Nearing transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-10-2**] 01:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-10-05 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - rehab pending...currently getting screened
   - Narrowed to vanc
   - Very quiet all day and night
   - Still with lots of secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-3**] 06:21 AM
   Ciprofloxacin - [**2184-10-3**] 10:00 PM
   Cefipime - [**2184-10-4**] 12:30 AM
   Metronidazole - [**2184-10-4**] 04:30 AM
   Vancomycin - [**2184-10-4**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-5**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 85 (76 - 97) bpm
   BP: 144/51(74) {94/40(55) - 144/56(74)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,502 mL
                                                                    487 mL
   PO:
             TF:
                                                                  1,461 mL
                                                                    375 mL
   IVF:
                                                                    871 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    330 mL
   Urine:
                                                                  1,155 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,347 mL
                                                                    157 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: NAD, resting comfortably, no increased work of breathing,
   interactive with exam
   HEENT: dry MM, trach in place with thick yellow secretions
   CV: RRR, +S1/S2 no m/r/g appreciated
   Lungs: transmitted upper airway sounds bilaterally, anterior lung
   fields clear, better air movement
   Abd: soft, non tender, non-distended, g-tube in place, site c/d/I,
   +midline bruit, 2-3cm pulse across abdomen
   Ext: warm, well perfused, no edema
   Labs / Radiology
   525 K/uL
   6.8 g/dL
                                     164
                                    mg/dL
                                     0.6
                                    mg/dL
                                     34
                                    Eq/L
   3.2 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   20.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
   WBC
   17.5
   18.2
   20.9
   19.8
   14.4
   Hct
   26.3
   26.2
   23.2
   22.3
   20.8
   Plt
   [**Telephone/Fax (3) 10511**]94
   525
   Cr
   0.6
   0.6
   0.6
   0.8
   0.7
   TropT
   0.07
   0.06
   TCO2
   41
   41
   39
   Glucose
   154
   196
   159
   89
   139
   Other labs:
    Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
GRAM STAIN (Final [**2184-10-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      Commensal Respiratory Flora Absent.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Initially likely secondary to PNA and secretions
   and s/p successful extubation [**9-26**].  Sputum culture grew out GNR.  Also
   had MSSA in sputum.  For which he completed a full course of
   antibiotics (levofloxacin, cefepime, vancomycin).  Patient had a
   tracheostomy done on [**10-2**] for increased work of breathing due to upper
   airway obstruction, worsening ability to cough (likely cannot close
   glottis), no gag reflex, rhonchi increasing, and worsening WOB and
   tachypnea, with significantly improved breathing post trach.  Chest
   x-ray from [**10-3**] showed a new LLL pneumonia, sputum culture preliminary
   with Staph Aureus
   - PNA being treated with vanc pending sensitivities
   - aggressive pulmonary toileting/chest PT
   - continue nebs, suctioning, saline spray
   - Screening for pulmonary rehab pending
   - Post op trach care as per ENT
 will change trach on POD #5
   # Troponin Leak: patient with some hypotension post procedure on [**10-2**],
   that responded overnight to fluids, same night he had ST changes on
   telemetry, and was found to have t wave inversions in V2-V5.  Cardiac
   enzymes showed elevated troponins to 0.07 and 0.06 with normal CK and
   CK-MB
s, thought to be due to demand ischemia in the setting of his
   procedure and hypotension to the 90
s systolic.  Has had no chest
   pain.
   -continue his aspirin, beta blocker and ACEi
   # Metabolic Alkalosis:  significantly improved with IV fluid hydration,
   significant portion of increased HCO3 likely related to contraction
   alkalosis
   # Leukocytosis: Resolving with antibiotic treatment for PNA
   - sputum culture
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - airway secure now with trach in place
   - S&S following
   .
   # HTN:  Blood pressure has stabilized
   - continue atenolol qhs as BP tolerates
   - continue Lisinopril 5 mg daily as BP tolerates
   .
   # Anemia: HCT has trended down over the course of his hospitalization,
   today HCT is 20.8, will get a type and screen and transfuse 1 unit
   PRBC
s, no current signs of active bleeding
   - likely due to phlebotomy and ongoing inflammation suppressing his
   bone marrow
   .
   # Hyponatremia:  resolved
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - patient currently unwilling to start an anti-depressant, will
   continue to address with the patient
   - SW following
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-10-5**] 03:51 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-10-4**] 09:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Protonix
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, pending pulmonary rehab placement

2184-10-05 12:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, anemia
   HPI:
   Doing better clearing secretions with trach. Afebrile. Oxygen
   saturations have been good on trach mask.
   WBC coming down.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-3**] 06:21 AM
   Ciprofloxacin - [**2184-10-3**] 10:00 PM
   Cefipime - [**2184-10-4**] 12:30 AM
   Metronidazole - [**2184-10-4**] 04:30 AM
   Vancomycin - [**2184-10-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-10-5**] 08:00 AM
   Other medications:
   Insulin, vanco,lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-5**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 78 (76 - 91) bpm
   BP: 135/57(76) {111/40(60) - 144/57(76)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,502 mL
                                                                  1,369 mL
   PO:
             TF:
                                                                  1,461 mL
                                                                    734 mL
   IVF:
                                                                    871 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    660 mL
   Urine:
                                                                  1,155 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,347 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , Rhonchorous: Coarse large airway sounds
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Abdominal bruit
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   525 K/uL
   164 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.2 mEq/L
   20 mg/dL
   102 mEq/L
   141 mEq/L
   20.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2184-9-30**]  03:55 PM
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
   WBC
   17.5
   18.2
   20.9
   19.8
   14.4
   Hct
   26.3
   26.2
   23.2
   22.3
   20.8
   Plt
   [**Telephone/Fax (3) 10511**]94
   525
   Cr
   0.6
   0.6
   0.6
   0.8
   0.7
   0.6
   TropT
   0.07
   0.06
   TCO2
   41
   41
   39
   Glucose
   154
   196
   159
   89
   139
   164
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   ==============================
   Doing well. Able to clear secretions from trach tube. Oxygenation good.
   Continue to progress ambulation.
   Hct down; will get transfusion today. Continue to monitor stool guaiac.
   Antibiotics continue; WBC improving.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-10-4**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-10-06 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - MRSA in sputum
   - speech and swallow to help w talking and eating--> unable to produce
   voice; difficulty with PMV trial, Noted to have high tracheal pressures
   and when PMV was removed, it was followed by a large rush of air
   indicating breathstacking, likely related to size of valve, they think
   he will do better with a smaller trach after ENT changes it on POD #5
   - transfused 1u pRBCs
   - possible d/c to pulmonary rehab pending PT/OT consults
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2184-10-3**] 06:21 AM
   Ciprofloxacin - [**2184-10-3**] 10:00 PM
   Cefipime - [**2184-10-4**] 12:30 AM
   Metronidazole - [**2184-10-4**] 04:30 AM
   Vancomycin - [**2184-10-5**] 11:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-10-5**] 09:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-6**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 79 (75 - 98) bpm
   BP: 139/57(77) {113/40(60) - 164/83(93)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,858 mL
                                                                    586 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    374 mL
   IVF:
                                                                    750 mL
                                                                     62 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,290 mL
                                                                    410 mL
   Urine:
                                                                  1,230 mL
                                                                    410 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,568 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Gen: NAD, resting comfortably, no increased work of breathing,
   interactive with exam
   HEENT: dry MM, trach in place with thick yellow secretions
   CV: RRR, +S1/S2 no m/r/g appreciated
   Lungs: transmitted upper airway sounds bilaterally, anterior lung
   fields clear, better air movement
   Abd: soft, non tender, non-distended, g-tube in place, site c/d/I,
   +midline bruit, 2-3cm pulse across abdomen
   Ext: warm, well perfused, no edema
   Labs / Radiology
   490 K/uL
   7.7 g/dL
   139 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   24.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2184-10-1**]  03:56 AM
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
                             [**2184-10-6**]  03:37 AM
   WBC
   17.5
   18.2
   20.9
   19.8
   14.4
   13.5
   Hct
   26.3
   26.2
   23.2
   22.3
   20.8
   24.0
   Plt
   [**Telephone/Fax (3) 10511**]94
   525
   490
   Cr
   0.6
   0.6
   0.8
   0.7
   0.6
   0.6
   TropT
   0.07
   0.06
   TCO2
   41
   41
   39
   Glucose
   196
   159
   89
   139
   164
   139
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
[**2184-10-2**] 5:14 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2184-10-5**]**
   GRAM STAIN (Final [**2184-10-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2184-10-5**]):
      Commensal Respiratory Flora Absent.
      [**Month/Day/Year **] AUREUS COAG +.    MODERATE GROWTH.
         Oxacillin RESISTANT Staphylococci MUST be reported as also
         RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations.
         Rifampin should not be used alone for therapy.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      ___________________________________________________
                             [**Month/Day/Year **] AUREUS COAG +
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
Ucx: negative; BCx: NGTD
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Initially likely secondary to PNA and secretions
   and s/p successful extubation [**9-26**].  Initial sputum culture grew out
   GNR.  Also had MSSA in sputum.  For which he completed a full course of
   antibiotics (levofloxacin, cefepime, vancomycin).  Patient had a
   tracheostomy done on [**10-2**] for increased work of breathing due to upper
   airway obstruction, worsening ability to cough (likely cannot close
   glottis), no gag reflex, rhonchi increasing, and worsening WOB and
   tachypnea, with significantly improved breathing post trach.  Chest
   x-ray from [**10-3**] showed a new LUL pneumonia, sputum culture MR [**First Name (Titles) **]
[**Last Name (Titles) 10549**]eus
   - PNA being treated with vanc for a total of 8 days (Day 1: [**2184-10-3**])
   - aggressive pulmonary toileting/chest PT
   - continue nebs, saline spray
   - Screening for pulmonary rehab pending
   - Post op trach care as per ENT
 will change trach on POD #5; likely
   will need smaller trach to prevent breath stacking and increased
   pressures
   # Anemia: HCT has trended down over the course of his hospitalization,
   today HCT is 24, up from 20.8, will get a type and screen and transfuse
   1 unit PRBC
s, no current signs of active bleeding, likely due to
   phlebotomy and ongoing inflammation suppressing his bone marrow
   - continue to guaiac stools
   - follow daily hcts
   # Metabolic Alkalosis:  Significantly improved with IV fluid hydration,
   significant portion of increased HCO3 likely related to contraction
   alkalosis
   - Continue to monitor with daily chem 10s.
   # Leukocytosis: Resolving with antibiotic treatment for PNA
   - sputum culture with MRSA
   - F/u final culture data
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - airway secure now with trach in place
   - S&S following
   .
   # HTN:  Blood pressure has stabilized
   - continue atenolol qhs as BP tolerates
   - continue Lisinopril 5 mg daily as BP tolerates
   .
   # Hyponatremia:  resolved
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - patient currently unwilling to start an anti-depressant, will
   continue to address with the patient
   - SW following
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-10-5**] 03:51 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-10-4**] 09:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Protonix
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, pending pulmonary rehab placement

2184-10-06 12:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, oropharyngeal ca,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRSA growing from sputum cultures. Low grade fever. WBC trending down.
   Patient transfused PRBCs yesterday with good bump in Hct.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2184-10-3**] 10:00 PM
   Cefipime - [**2184-10-4**] 12:30 AM
   Metronidazole - [**2184-10-4**] 04:30 AM
   Vancomycin - [**2184-10-6**] 08:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-5**] 09:19 PM
   Other medications:
   ASA, atrovent, albuterol, atenolol, insulin, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-6**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 81 (75 - 98) bpm
   BP: 118/51(68) {113/45(65) - 164/83(93)} mmHg
   RR: 27 (18 - 31) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.4 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,858 mL
                                                                  1,323 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    731 mL
   IVF:
                                                                    750 mL
                                                                    322 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,290 mL
                                                                    850 mL
   Urine:
                                                                  1,230 mL
                                                                    850 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,568 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, Tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
    490 K/uL
   139 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   24.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2184-10-1**]  11:08 PM
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
                             [**2184-10-6**]  03:37 AM
                             [**2184-10-6**]  11:00 AM
   WBC
   18.2
   20.9
   19.8
   14.4
   13.5
   13.5
   Hct
   26.2
   23.2
   22.3
   20.8
   24.0
   24.0
   Plt
   [**Telephone/Fax (3) 10558**]25
   490
    490
   Cr
   0.6
   0.8
   0.7
   0.6
   0.6
   TropT
   0.07
   0.06
   TCO2
   41
   41
   39
   Glucose
   159
   89
   139
   164
   139
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   =====================
   Patient making progress. Physical therapy started. Continues on vanco
   for MRSA in sputum. Exam quite clear this AM. Trach to be changed to
   smaller tube to enable him to use P-M valve for speaking.
   Hct stable post transfusion.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-10-6**] 05:53 AM 60 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-10-5**] 06:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30

2184-10-07 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - on day#5 of 14 abx for VAP
   - pending Rehab placement
   - incontinent of stool
   - trach mask 40% FiO2 all night with copious thick yellow secretions
   - getting trach changed today by ENT resident
   - drop in HCT by 6 points this morning, stools are guaiac negative,
   repeating labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-10-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2184-10-6**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No back pain, thigh pain, chest pain, shortness of
   breath, chest pain
   Flowsheet Data as of  [**2184-10-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 84 (76 - 98) bpm
   BP: 141/61(80) {118/47(68) - 164/75(95)} mmHg
   RR: 24 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,452 mL
                                                                    449 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    385 mL
   IVF:
                                                                    640 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    760 mL
   Urine:
                                                                  1,790 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: NAD, resting comfortably, no increased work of breathing,
   interactive with exam
   HEENT: dry MM, yellow-white plaques on tongue, trach in place with
   thick yellow secretions
   CV: RRR, +S1/S2 no m/r/g appreciated
   Lungs: transmitted upper airway sounds bilaterally, anterior lung
   fields clear, better air movement
   Abd: soft, non tender, non-distended, g-tube in place, site c/d/I,
   +midline bruit, 2-3cm pulse across abdomen
   Ext: warm, well perfused, no edema
   Labs / Radiology
   638 K/uL
   5.7 g/dL
   158 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   18.0 %
   18.1 K/uL
        [image002.jpg]
                             [**2184-10-2**]  02:10 AM
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
                             [**2184-10-6**]  03:37 AM
                             [**2184-10-6**]  11:00 AM
                             [**2184-10-7**]  04:35 AM
   WBC
   18.2
   20.9
   19.8
   14.4
   13.5
   13.5
   18.1
   Hct
   26.2
   23.2
   22.3
   20.8
   24.0
   24.0
   18.0
   Plt
   [**Telephone/Fax (3) 10558**]25
   490
    490
   638
   Cr
   0.6
   0.8
   0.7
   0.6
   0.6
   0.5
   TropT
   0.07
   0.06
   TCO2
   41
   39
   Glucose
   159
   89
   139
   164
   139
   158
   Other labs:
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
[**2184-10-2**] 5:14 pm SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2184-10-5**]**
   GRAM STAIN (Final [**2184-10-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2184-10-5**]):
      Commensal Respiratory Flora Absent.
      [**Month/Day/Year **] AUREUS COAG +.    MODERATE GROWTH.
         Oxacillin RESISTANT Staphylococci MUST be reported as also
         RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations.
         Rifampin should not be used alone for therapy.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      ___________________________________________________
                             [**Month/Day/Year **] AUREUS COAG +
                             |
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S
Ucx: negative; BCx: NGTD
   Assessment and Plan
   68 yo M with PMH of stage III squamous cell throat CA admitted for [**Hospital 10251**]
   transferred from oncology service for hypoxic respiratory distress.
   # Respiratory failure: Initially likely secondary to PNA and secretions
   and s/p successful extubation [**9-26**].  Initial sputum culture grew out
   GNR.  Also had MSSA in sputum.  For which he completed a full course of
   antibiotics (levofloxacin, cefepime, vancomycin).  Patient had a
   tracheostomy done on [**10-2**] for increased work of breathing due to upper
   airway obstruction, worsening ability to cough (likely cannot close
   glottis), no gag reflex, rhonchi increasing, and worsening WOB and
   tachypnea, with significantly improved breathing post trach.  Chest
   x-ray from [**10-3**] showed a new LUL pneumonia, sputum culture MR [**First Name (Titles) **]
[**Last Name (Titles) 10549**]eus
   - PNA being treated with vanc for a total of 14 days
   - aggressive pulmonary toileting/chest PT
   - continue nebs, saline spray
   - Screening for pulmonary rehab pending
   - Post op trach care as per ENT
 will change trach on POD #5; likely
   will need smaller trach to prevent breath stacking and increased
   pressures
   # Anemia: HCT has trended down over the course of his hospitalization,
   HCT was 24 yesterday s/p 1 unit PRBC
s, HCT was 18 today, with no
   active signs of bleeding, stools are guaiac negative, and  VS stable,
   repeat HCT=22.7
   - maintain active type and screen
   - anemia was attributed to repeated phlebotomy and ongoing inflammation
   suppressing his bone marrow
   - follow daily hcts
   # Right Facial Swelling and White-Yellow tongue plaques:
   # Metabolic Alkalosis:  Significantly improved with IV fluid hydration,
   significant portion of increased HCO3 likely related to contraction
   alkalosis
   - Continue to monitor with daily chem 10s.
   # Leukocytosis: Resolving with antibiotic treatment for PNA
   - sputum culture
   - F/u final culture data
   # Stage III Squamous Cell Throat CA:  Followed by Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3805**].
   Is s/p XRT and cetuximab, last dose [**2184-6-21**].
   - airway secure now with trach in place
   - S&S following
   .
   # HTN:  Blood pressure has stabilized
   - continue atenolol qhs as BP tolerates
   - continue Lisinopril 5 mg daily as BP tolerates
   .
   # Hyponatremia:  resolved
   .
   # H/O CVA:  Per notes, had h/o of 'small strokes'.  No residual
   deficits.
   - continue ASA 325mg qd
   .
   # Depression:
   - patient currently unwilling to start an anti-depressant, will
   continue to address with the patient
   - SW following
   # Hyperglycemia: Continue HISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-10-7**] 06:25 AM 60 mL/hour
   Glycemic Control:  Humalog Sliding Scale
   Lines:
   22 Gauge - [**2184-10-5**] 06:21 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Lansoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending pulmonary rehab placement

2184-10-07 11:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient doing well on trach mask; smaller trach placed today.
   Electrolytes normal.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-10-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2184-10-6**] 09:50 PM
   Other medications:
   ASA, atrovent, albuterol, atenolol, insulin, lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-7**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 74 (74 - 98) bpm
   BP: 128/53(70) {124/47(66) - 164/75(95)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.9 kg (admission): 58.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,452 mL
                                                                    810 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    694 mL
   IVF:
                                                                    640 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    960 mL
   Urine:
                                                                  1,790 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, tracheostomy tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : ), Coarse large airway sounds diffusely
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   547 K/uL
   158 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   22.7 %
   15.3 K/uL
        [image002.jpg]
                             [**2184-10-2**]  04:04 AM
                             [**2184-10-2**]  08:13 AM
                             [**2184-10-2**]  08:21 PM
                             [**2184-10-3**]  03:48 AM
                             [**2184-10-4**]  04:00 AM
                             [**2184-10-5**]  04:29 AM
                             [**2184-10-6**]  03:37 AM
                             [**2184-10-6**]  11:00 AM
                             [**2184-10-7**]  04:35 AM
                             [**2184-10-7**]  06:36 AM
   WBC
   18.2
   20.9
   19.8
   14.4
   13.5
   13.5
   18.1
   15.3
   Hct
   26.2
   23.2
   22.3
   20.8
   24.0
   24.0
   18.0
   22.7
   Plt
   [**Telephone/Fax (3) 10558**]25
   490
    490
   638
   547
   Cr
   0.6
   0.8
   0.7
   0.6
   0.6
   0.5
   TropT
   0.07
   0.06
   TCO2
   39
   Glucose
   159
   89
   139
   164
   139
   158
   Other labs: PT / PTT / INR:14.4/32.7/1.2, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:28/33, Alk Phos / T Bili:102/0.7,
   Amylase / Lipase:15/16, Differential-Neuts:89.0 %, Lymph:3.5 %,
   Mono:6.8 %, Eos:0.6 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 COUGH, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOXEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   =======================
   Respiratory status stable on trach. Able to clear secretions with
   strong cough. Continues on antibiotics. Try P-M valve today.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2184-10-7**] 06:25 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2184-10-5**] 06:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes